2169-08-30 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2169-8-29**] 10:45 AM
 EKG - At [**2169-8-29**] 01:00 PM
   to eval tachycardia
 ULTRASOUND - At [**2169-8-29**] 03:23 PM
 MULTI LUMEN - START [**2169-8-29**] 04:12 PM
 BLOOD CULTURED - At [**2169-8-29**] 05:45 PM
 SPUTUM CULTURE - At [**2169-8-29**] 05:45 PM
 PICC LINE - STOP [**2169-8-29**] 10:07 PM
 FEVER - 101.8
F - [**2169-8-29**] 05:00 PM
   - transferred from TSICU to MICU
   - had RIJ placed
   - placed on neosynephrine titrated to max dose
   - started on vasopressin
   - had upper and lower extremity dopplers without evidence of DVT
   - started on vancomycin, cefepime, ciprofloxacin and micafungin
   - started on low tidal volume ventilation but was dissynchronous with
   the ventilator so  needed increased sedation
   - was switched to 7 cc/kg tidal volumes secondary to acidosis but
   plateau pressures near 30
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2169-8-29**] 01:11 AM
   Metronidazole - [**2169-8-29**] 04:05 PM
   Ciprofloxacin - [**2169-8-29**] 06:25 PM
   Micafungin - [**2169-8-29**] 06:28 PM
   Vancomycin - [**2169-8-29**] 08:00 PM
   Cefipime - [**2169-8-30**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-8-29**] 10:55 AM
   Fentanyl - [**2169-8-29**] 12:30 PM
   Famotidine (Pepcid) - [**2169-8-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-8-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-8-30**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.2
C (98.9
   HR: 92 (90 - 155) bpm
   BP: 89/51(67) {62/37(48) - 165/81(111)} mmHg
   RR: 28 (18 - 49) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 44.9 kg (admission): 45.5 kg
   Height: 60 Inch
    CVP: 15 (10 - 16)mmHg
   Total In:
                                                                  9,803 mL
                                                                    397 mL
   PO:
   TF:
                                                                    411 mL
                                                                     69 mL
   IVF:
                                                                  9,251 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    620 mL
   Urine:
                                                                  2,285 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,348 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (270 - 330) mL
   Vt (Spontaneous): 156 (156 - 300) mL
   PS : 15 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   SpO2: 94%
   ABG: 7.42/40/76.[**Numeric Identifier 299**]/23/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General: Alert, eyes open, deaf, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, trach in place, site
   intact, no erythema or pus
   Neck: supple, JVP elevated at ear, no LAD
   Lungs: Coarse breath sounds throughout with diffuse wheezing
   anteriorly, no rales, diffuse ronchi
   CV: Tachycardic, S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Hematoma on right arm.
   Labs / Radiology
   402 K/uL
   8.5 g/dL
   203 mg/dL
   0.3 mg/dL
   23 mEq/L
   4.4 mEq/L
   8 mg/dL
   105 mEq/L
   133 mEq/L
   25.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2169-8-29**]  10:24 AM
                             [**2169-8-29**]  01:22 PM
                             [**2169-8-29**]  03:51 PM
                             [**2169-8-29**]  05:46 PM
                             [**2169-8-29**]  06:11 PM
                             [**2169-8-29**]  07:24 PM
                             [**2169-8-29**]  08:34 PM
                             [**2169-8-29**]  10:49 PM
                             [**2169-8-30**]  03:43 AM
                             [**2169-8-30**]  03:50 AM
   WBC
   15.5
   Hct
   28.5
   25.9
   Plt
   402
   Cr
   0.3
   TCO2
   26
   26
   33
   28
   28
   26
   25
   27
   Glucose
   203
   Other labs: PT / PTT / INR:14.4/40.9/1.2, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.6 mmol/L,
   Albumin:1.7 g/dL, Ca++:6.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Imaging:
   CXR Portable [**2169-8-29**]:
   right IJ at cavoatrial junction. unchanged small right pneumothorax.
   locule of
   air projecting over right heart border may be trapped air along the
   medistinum. diffuse lung parenchymal opacities unchanged. tracheostomy
   catheter unchanged
   Bilateral upper and lower extremity venous dopplers [**2169-8-29**]
 negative
   for DVT
   Plain films of right hip [**2169-8-29**]
 Right femoral neck fixation without
   complications
   Microbiology:
GRAM STAIN (Final [**2169-8-29**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
         secretions. Bacterial culture results are invalid.
   Blood cultures, mycolytic cultures and urine cultures [**2169-8-29**] - pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment and Plan: 44 year old female with a history of mental
   retardation and deafness who was transferred from [**Hospital3 **] on
   [**2169-8-25**] for scheduled tracheostomy and PEG after a prolonged
   hospitalization from [**2170-7-25**] to [**2169-8-25**] complicated by multiple episodes
   of aspiration pneumonia and respiratory failure now with fevers,
   tachycardia and hypotension.
   Shock:  Most likely etiology is septic shock in the setting of fevers,
   tachycardia, leukocytosis and hypotension.  Now significantly improved
   s/p fluid resuscitation.  Switched from neosynephrine to vasopressin
   with resolution of her tachycardia.  Source of her shock is unclear.
   Sputum, blood, urine, and mycolytic cultures are pending.  She is not
   having diarrhea but will try to send clostridum difficile.  Given
   improvement with resuscitation, other etiologies of shock such as
   cardiac, obstructive, hypovolemic shock are less likely.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - will attempt to wean vasopressin today
   - echocardiogram to assess for signs of right heart strain, pulmonary
   hypertension
   - blood, urine, sputum, stool cultures
   - send pleural fluid cx
   - vancomycin, cefepime, ciprofloxacin for VAP vs. hospital acquired
   pneumonia
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**]
   - if diarrhea will start flagyl
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Currently being
   ventilated per ARDSnet protocol given PaO2/FiO2 ratio less than 200.
   Given worsening fevers and shock we are treating broadly for ventilator
   acquired pneumonia.
   - continue vancomycin, cefepime, ciprofloxacin for ventilator
   associated pneumonia
   - low tidal volume ventilation (currently on 7 cc/kg after not
   tolerating 6 cc/kg)
   - Plateau pressures borderline at 30-32
   - recheck ABG and central venous sat
   - may need esophageal balloon
   Hemothorax:  Chest tube currently draining minimal serosanguinous
   fluid.
   - thoracis to look at chest tube.
   - continue to monitor output
   - trend hematocrit
   Firm abdomen: refluxed tube feeds from [**Last Name (un) **] hoff
   - change to NG tube to check
   s/p HIP fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   ? Venous clots in femoral and internal jugular veins:  Right IJ widely
   patent on bedside ultrasound.  Central line now in place.  Formal
   ultrasounds negative for clots.
   FEN: IVF for resuscitation as above, replete electrolytes, hold tube
   feeds
   Prophylaxis: Subutaneous heparin
   Access: RIJ
   Code:  Full (discussed with health care proxy)
   Communication: [**Name (NI) **] mother [**Name (NI) 7700**] [**Name (NI) 1797**] [**Telephone/Fax (1) 7707**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   20 Gauge - [**2169-8-29**] 12:19 AM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2169-08-31 10:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, Sepsis
   24 Hour Events:
   weaned off vasopressin since 0300 this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2169-8-29**] 01:11 AM
   Metronidazole - [**2169-8-29**] 04:05 PM
   Micafungin - [**2169-8-30**] 07:00 PM
   Cefipime - [**2169-8-31**] 12:00 AM
   Ciprofloxacin - [**2169-8-31**] 06:00 AM
   Vancomycin - [**2169-8-31**] 08:48 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-8-31**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2169-8-31**] 08:48 AM
   Fentanyl - [**2169-8-31**] 09:44 AM
   Other medications:
   RISS, midazolam, fentanyl, Peridex, Cefepime, Vanco IV, heparin sc,
   micafungin, Ciproflox, Reglan IV
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-8-31**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 111 (79 - 144) bpm
   BP: 105/51(69) {82/50(65) - 162/95(120)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
   CVP: 28 (9 - 37)mmHg
   Total In:
                                                                  1,552 mL
                                                                    708 mL
   PO:
   TF:
                                                                     69 mL
   IVF:
                                                                  1,484 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    970 mL
   Urine:
                                                                  1,450 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -48 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.29/58/91.[**Numeric Identifier 253**]/24/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   478 K/uL
   107 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   10 mg/dL
   100 mEq/L
   131 mEq/L
   28.9 %
   15.8 K/uL
        [image002.jpg]
                             [**2169-8-29**]  05:46 PM
                             [**2169-8-29**]  06:11 PM
                             [**2169-8-29**]  07:24 PM
                             [**2169-8-29**]  08:34 PM
                             [**2169-8-29**]  10:49 PM
                             [**2169-8-30**]  03:43 AM
                             [**2169-8-30**]  03:50 AM
                             [**2169-8-30**]  11:43 AM
                             [**2169-8-31**]  03:29 AM
                             [**2169-8-31**]  04:48 AM
   WBC
   15.5
   15.8
   Hct
   28.5
   25.9
   28.9
   Plt
   402
   478
   Cr
   0.3
   0.4
   TCO2
   28
   28
   26
   25
   27
   28
   29
   Glucose
   203
   107
   Other labs: PT / PTT / INR:13.7/40.4/1.2, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.6 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Fluid analysis / Other labs: venous O2 sat [**8-30**]- 74%
   Imaging: [**8-30**] Echo- nl EF, nl R-sided pressures
   [**8-30**] KUB- retained stool, no obsturciton or free air
   [**8-31**] CXR- diffuse bilat infiltrates largely unchanged accounting for
   technique difference
   Microbiology: [**8-30**] Pleural fl- cx pending
   [**8-29**] urine- cx
   [**8-29**] blood, fungal isolators-pending
   [**8-29**] sputum- contaminated
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure now with presumed septic shock.
   Shock: most likely septic, of pressors since this morning at 0300
   -cont fluid resuscitation and pressor support
   -echo normal
   -sepsis mgmt as below
   Sepsis: sources include pleural infection, pneumonia, urinary
   -f/u cultures, send pleural fluid as well
   -on vanco + cefepime + cipro + micafungin (for prior [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 7706**])
   -will need renal CT to look for abscess at some point
   Hypoxemic Respiratory failure: ARDS physiology due to multifocal pna,
   also w/ R PTX/hemothorax and R chest tube drainage
   -low Vt strategy targeting Pplat < 30, tolerate permissive hypercapnia
   and allow pH to drift to 7.20 if necessary
   -Thoracics to assist w/ chest tube mgmt
   -treating pna as above
   s/p HIP fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.
   - f/u final read of hip films
   - per orthopedics no surgical issues
   Constipation: failed enemas yest
   -change Dobhoff to NGT today
   -attempt methylnatrexone as well as po lactulose
   Will speak with Dr [**First Name (STitle) **] regarding PEG placement in OR
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   20 Gauge - [**2169-8-29**] 12:19 AM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-09-01 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Thoracics thought chest tube clogged. Did not give TPA; pulled.
   Repeat CXR showed small pneumothorax after removal. Plan to monitor.
   - Started on methylnaltrexone and lactulose for constipation. Still
   with bilious emesis in mouth. Unable to check residuals with Dobhoff.
   Given h/o nasal reconstruction, unable to place NGT. IP declined PEG
   given low albumin. IR and GI unable to do EGD-guided NGT placement; ENT
   to evaluate in AM. KUB showed no evidence of obstruction. Added IV
   erythromycin.
   - Vt decreased to 6 cc/kg and RR increased to maintain Ve. ABG
   7.32/55/108. Decreased PEEP 8 -> 5 given borderline high Pplat. ABG pH
   7.33/52/106. FiO2 decreased 50% -> 40%. ABG 7.45/42/118.
   - Not diuresed as autodiuresing well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2169-8-29**] 04:05 PM
   Vancomycin - [**2169-8-31**] 08:36 PM
   Micafungin - [**2169-8-31**] 08:36 PM
   Cefipime - [**2169-9-1**] 12:07 AM
   Erythromycin - [**2169-9-1**] 05:22 AM
   Ciprofloxacin - [**2169-9-1**] 06:22 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-8-31**] 08:35 PM
   Fentanyl - [**2169-8-31**] 08:35 PM
   Famotidine (Pepcid) - [**2169-8-31**] 08:36 PM
   Heparin Sodium (Prophylaxis) - [**2169-8-31**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 112 (89 - 142) bpm
   BP: 103/54(73) {89/50(66) - 173/78(107)} mmHg
   RR: 30 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
    CVP: 18 (8 - 37)mmHg
   Total In:
                                                                  1,790 mL
                                                                    588 mL
   PO:
   TF:
   IVF:
                                                                  1,730 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                  1,220 mL
   Urine:
                                                                  2,990 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                   -632 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 280) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.34/55/101/27/1
   Ve: 6.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: Sleeping, no acute distress, deaf
   HEENT: Sclera anicteric, MMM, oropharynx clear, trach in place, site
   intact, no erythema or pus
   Neck: supple, JVP elevated at ear, no LAD
   Lungs: Coarse breath sounds throughout, no rales, diffuse ronchi
   CV: Tachycardic, S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Hematoma on right arm.
   Labs / Radiology
   503 K/uL
   9.3 g/dL
   102 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.4 mEq/L
   5 mg/dL
   111 mEq/L
   145 mEq/L
   29.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2169-8-30**]  03:43 AM
                             [**2169-8-30**]  03:50 AM
                             [**2169-8-30**]  11:43 AM
                             [**2169-8-31**]  03:29 AM
                             [**2169-8-31**]  04:48 AM
                             [**2169-8-31**]  01:40 PM
                             [**2169-8-31**]  03:46 PM
                             [**2169-8-31**]  07:39 PM
                             [**2169-9-1**]  04:30 AM
                             [**2169-9-1**]  04:37 AM
   WBC
   15.5
   15.8
   9.7
   Hct
   25.9
   28.9
   29.2
   Plt
   [**Telephone/Fax (3) 7766**]
   Cr
   0.3
   0.4
   0.4
   TCO2
   27
   28
   29
   30
   29
   30
   31
   Glucose
   [**Telephone/Fax (3) 7767**]
   Other labs: PT / PTT / INR:14.0/37.1/1.2, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.6 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Imaging: KUB [**2169-8-31**]: oral contrast less evident on this study. bowel
   loops appear unchanged without evidence for obstruction or illeus.
   filter and screws unchanged. opacites at
   right lung base.
   CXR [**2169-8-31**]: As compared to the previous examination, the tracheostomy
   tube and the central venous access line are in unchanged position. Also
   unchanged is the right-sided chest tube. There is no evidence of
   pneumothorax. The pre-existing bilateral opacities are unchanged in
   extent and distribution.  The cardiac silhouette is barely visible.
   Dobbhoff catheter in unchanged position.
   Microbiology: [**2169-9-1**]: clostridium difficle - pending
   [**2169-9-1**]: peritoneal fluid cultures - pending
   [**2169-9-1**]: blood cultures - pending
   [**2169-8-29**] 10:44 am URINE      Source: Catheter.
      URINE CULTURE (Preliminary):
         YEAST, PRESUMPTIVELY NOT C. ALBICANS.
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure now with fevers, tachycardia and hypotension.
   Septic Shock:  Source continues to be unclear although most likely
   etiology is lung given diffuse infiltrates which worsened prior to MICU
   transfer.  Now significantly improved s/p fluid resuscitation and broad
   spectrum antibiotics.  Urine and sputum with yeast, not yet speciated.
   Blood cultures negative.  No diarrhea.  Now off pressors as of 3 AM
   this morning.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - restart vasopressin if necessary
   - f/u cultures
   - blood, urine, sputum, pleural fluid cultures
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina (day [**4-23**])
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] (pending speciation of yeast in
   urine)
   - renal ultrasound today to assess for renal involvement of yeast
   species
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Currently being
   ventilated per ARDSnet protocol given PaO2/FiO2 ratio less than 200 on
   presentation.  Also treating broadly for ventilator acquired pneumonia.
   - continue vancomycin, cefepime, ciprofloxacin for ventilator
   associated pneumonia day [**4-23**]
   - now tolerating 6 cc/kg without significant dysynchrony.  ABG with
   acceptable permissive hypercapnia.
   - Plateau pressures borderline at 30-32
   Hemothorax:  Chest tube currently draining minimal serosanguinous
   fluid.  Pleural fluid yesterday with 74 WBC.
   - appreciate thoracics assistance with chest tube
   - continue to monitor output
   - trend hematocrit daily
   - f/u pleural fluid cx
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   currently on hold due to emesis.  NGT not placed yesterday secondary to
   surgically created nasal passages.
   - restart tube feeds
   - repeat albumin in several days
   - PEG tube pending improved albumin; will speak to IP re: possibility
   next Mon/Tues
   s/p HIP fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   ICU Care
   Nutrition: Restart tube feeds, IVF prn, replete electrolytes prn
   Glycemic Control:
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   20 Gauge - [**2169-8-29**] 12:19 AM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: [**Name (NI) **] mother [**Name (NI) 7700**] [**Name (NI) 1797**]
   [**Telephone/Fax (1) 7707**]. Dept of Developmental Services.
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   [**Known firstname 792**] has now begun to autodiurese and her HR has remained stable off
   pressors but with sedation. All cultures do not reveal new septic
   source and she even had a large BM overnight.
   We will resume tube feeds but if unable to advance, start TPN to keep
   nutritional reserves repleted. She will need
slow
 ventilator wean and
   limits to this will be anasarca, secretion control and level of anxiety
   manifested by tachycardia.
   We will also request Dr [**First Name (STitle) **] to consider placement of PEG tube next
   week so that she can transition to LTAC unit for weaning soon
   thereafter.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2169-9-1**] 12:38 ------

2169-09-02 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2169-9-1**] 08:30 AM
   Renal US
   - Renal ultrasound without evidence of abscess or hydronephrosis
   - Spoke to development services case manager [**First Name4 (NamePattern1) 1686**] [**Last Name (NamePattern1) **] who explained
   that the function of her office is to protect the patient from being
   discriminated against because of her disabilities.  She confirmed that
   the patient's mother is her decision maker but that we should contact
   her office if there is consideration of anything that would be
   considered an extrodinary measure such as removing life support, limbs
   or other body parts.  Does not include procedures that would be
   considered normal course of action that we would do for anyone else.
   She also requests that when screening for LTAC we consider [**Hospital1 1298**]
   [**Location (un) 2460**] if possible.
   - Thoracis consulted for possible open G-tube on Monday
   - Tube feeds restarted
   - Bowel meds discontinued as patient now stooling
   - persistently tachycardic with any stimulation, requiring boluses of
   sedation
   - concern on CXR [**2169-9-1**] for lateral placement of tracheostomy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2169-9-1**] 05:22 AM
   Vancomycin - [**2169-9-1**] 08:32 PM
   Micafungin - [**2169-9-1**] 08:32 PM
   Cefipime - [**2169-9-2**] 12:20 AM
   Ciprofloxacin - [**2169-9-2**] 06:11 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-9-1**] 08:00 PM
   Famotidine (Pepcid) - [**2169-9-1**] 08:33 PM
   Midazolam (Versed) - [**2169-9-2**] 01:20 AM
   Fentanyl - [**2169-9-2**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-2**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 129 (94 - 141) bpm
   BP: 148/75(103) {92/49(65) - 169/78(107)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
    CVP: 14 (6 - 31)mmHg
   Total In:
                                                                  2,288 mL
                                                                    651 mL
   PO:
   TF:
                                                                    231 mL
                                                                    200 mL
   IVF:
                                                                  1,997 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    345 mL
   Urine:
                                                                  2,485 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 16.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/44/99.[**Numeric Identifier **]/27/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General: Sleeping, no acute distress, deaf
   HEENT: Sclera anicteric, MMM, oropharynx clear, trach in place, site
   intact, no erythema or pus
   Neck: supple, JVP elevated at ear, no LAD
   Lungs: Coarse breath sounds throughout, no rales, diffuse ronchi
   CV: Tachycardic, S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Hematoma on right arm.
   Labs / Radiology
   474 K/uL
   7.8 g/dL
   94 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.2 mEq/L
   5 mg/dL
   108 mEq/L
   140 mEq/L
   24.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2169-8-31**]  03:29 AM
                             [**2169-8-31**]  04:48 AM
                             [**2169-8-31**]  01:40 PM
                             [**2169-8-31**]  03:46 PM
                             [**2169-8-31**]  07:39 PM
                             [**2169-9-1**]  04:30 AM
                             [**2169-9-1**]  04:37 AM
                             [**2169-9-1**]  07:34 AM
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
   WBC
   15.8
   9.7
   12.3
   Hct
   28.9
   29.2
   24.5
   Plt
   [**Telephone/Fax (3) 7804**]
   Cr
   0.4
   0.4
   0.4
   TCO2
   29
   30
   29
   30
   31
   30
   31
   Glucose
   107
   102
   94
   Other labs: PT / PTT / INR:14.3/37.6/1.2, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   Imaging: Renal Ultrasound [**2169-9-1**] : No sign of a renal abscess. No
   hydronephrosis identified. Atrophic right kidney.
   Portable CXR [**2169-9-1**]: The tracheostomy tip is impinging the right
   tracheal wall and should be
   repositioned with its tip 3.5 cm above the carina. The lateral than
   expected
   location of the right internal jugular line is unchanged with the tip
   of the
   line being at the level of cavoatrial junction/low SVC. The Dobbhoff
   tube is
   in the proximal stomach. There is interval significant worsening
   widespread parenchymal opacities
   consistent with progression of ARDS or may be superimposed pulmonary
   edema. Bilateral pleural effusions are most likely present. There is no
   evidence of pneumothorax. The right chest tube was removed prior to the
   previous radiograph that was obtained on [**2169-8-31**] at 3:21 p.m. On
   the current radiograph, there is minimal apical lucency seen on the
   right that might be consistent with loculated air, but no overt
   pneumothorax is demonstrated.
   Microbiology: Urine [**2169-8-29**] - [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**]
   Blood  [**2169-8-29**] - no growth
   Stool [**2169-9-1**] - c. diff negative
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure now with fevers, tachycardia and hypotension.
   Septic Shock:  Source continues to be unclear although most likely
   etiology is lung given diffuse infiltrates which worsened prior to MICU
   transfer.  Now significantly improved s/p fluid resuscitation and broad
   spectrum antibiotics.  Urine and sputum with yeast, not yet speciated.
   Blood cultures negative.  No diarrhea.  Now off pressors as of 3 AM
   this morning.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - restart vasopressin if necessary
   - f/u cultures
   - blood, urine, sputum, pleural fluid cultures
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina (day [**4-23**])
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] (pending speciation of yeast in
   urine)
   - renal ultrasound today to assess for renal involvement of yeast
   species
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Currently being
   ventilated per ARDSnet protocol given PaO2/FiO2 ratio less than 200 on
   presentation.  Also treating broadly for ventilator acquired pneumonia.
   - continue vancomycin, cefepime, ciprofloxacin for ventilator
   associated pneumonia day [**4-23**]
   - now tolerating 6 cc/kg without significant dysynchrony.  ABG with
   acceptable permissive hypercapnia.
   - Plateau pressures borderline at 30-32
   Hemothorax:  Chest tube currently draining minimal serosanguinous
   fluid.  Pleural fluid yesterday with 74 WBC.
   - appreciate thoracics assistance with chest tube
   - continue to monitor output
   - trend hematocrit daily
   - f/u pleural fluid cx
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   currently on hold due to emesis.  NGT not placed yesterday secondary to
   surgically created nasal passages.
   - restart tube feeds
   - repeat albumin in several days
   - PEG tube pending improved albumin; will speak to IP re: possibility
   next Mon/Tues
   s/p HIP fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   ICU Care
   Nutrition: Restart tube feeds, IVF prn, replete electrolytes prn
   Glycemic Control:
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   20 Gauge - [**2169-8-29**] 12:19 AM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: [**Name (NI) **] mother [**Name (NI) 7700**] [**Name (NI) 1797**]
   [**Telephone/Fax (1) 7707**]. Dept of Developmental Services.
   Code status: Full code
   Disposition:ICU

2169-09-02 10:00:00 Physician Attending Progress Note
Chief Complaint: Transferred from SICU with sepsis
   HPI:
   48 f w/ congenital deafness and developmental delay initially admitted
   to OSH following fall, s/p ORIF, chronic respiratory failure [**3-20**] ARDS,
   sepsis likely from a pulmonary source.
   24 Hour Events:
 ULTRASOUND - At [**2169-9-1**] 08:30 AM
   Renal US
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2169-9-1**] 05:22 AM
   Micafungin - [**2169-9-1**] 08:32 PM
   Cefipime - [**2169-9-2**] 12:20 AM
   Ciprofloxacin - [**2169-9-2**] 06:11 AM
   Vancomycin - [**2169-9-2**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-9-1**] 08:33 PM
   Midazolam (Versed) - [**2169-9-2**] 07:45 AM
   Fentanyl - [**2169-9-2**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-2**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 111 (94 - 141) bpm
   BP: 139/82(105) {92/49(65) - 179/93(114)} mmHg
   RR: 24 (0 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
   CVP: 14 (6 - 25)mmHg
   Total In:
                                                                  2,288 mL
                                                                  1,217 mL
   PO:
   TF:
                                                                    231 mL
                                                                    336 mL
   IVF:
                                                                  1,997 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    505 mL
   Urine:
                                                                  2,485 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 14.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/44/99.[**Numeric Identifier **]/27/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   R arm eccymosis.
   s/p ORIF.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   474 K/uL
   94 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.2 mEq/L
   5 mg/dL
   108 mEq/L
   140 mEq/L
   24.5 %
   12.3 K/uL
        [image002.jpg] CXR: b/l diffuse opacities. ? trach along R wall
                             [**2169-8-31**]  03:29 AM
                             [**2169-8-31**]  04:48 AM
                             [**2169-8-31**]  01:40 PM
                             [**2169-8-31**]  03:46 PM
                             [**2169-8-31**]  07:39 PM
                             [**2169-9-1**]  04:30 AM
                             [**2169-9-1**]  04:37 AM
                             [**2169-9-1**]  07:34 AM
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
   WBC
   15.8
   9.7
   12.3
   Hct
   28.9
   29.2
   24.5
   Plt
   [**Telephone/Fax (3) 7804**]
   Cr
   0.4
   0.4
   0.4
   TCO2
   29
   30
   29
   30
   31
   30
   31
   Glucose
   107
   102
   94
   Other labs: PT / PTT / INR:14.3/37.6/1.2, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   48 f w/ congenital deafness and developmental delay initially admitted
   to OSH following fall, s/p ORIF, chronic respiratory failure [**3-20**] ARDS,
   sepsis likely from a pulmonary source.
   Sepsis
 now resolved.  Bx Cx neg.  Only positive culture is urine w/
   [**Female First Name (un) **].   On vanc/cefepime/cipro d4.  Initial PICC, RIJ sited after
   therapy started so lines have been changed appropriately.
   Chronic resp failure
 s/p tracheostomy.   Stable on ARDSnet
   ventilation.  Currently not attempting aggressive wean given low tidal
   volume strategy and recent sepsis w/ presumed pulmonary source.
   ARDS
 on ARDSnet ventilation for 3rd day.
   Delerium?
 unclear baseline.  Plan to discuss w/ family, if not
   available will need to get ASL interpreter.
   Candiduria
 change foley.  f/u cultures.  Renal u/s neg for abscess.
   Anemia
 29->24.  Transfuse <21.  f/u HCT, guiac all stools.
   Hemothorax
 R CT removed [**8-31**].
   FEN
 TFs at goal.
   Sedation- versed
   Analgesia- fentanyl
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-9-2**] 07:26 AM 40 mL/hour
   Glycemic Control:  Controlled.
   Lines: RIJ
   Arterial Line - [**2169-8-28**] 11:14 PM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: sc heparin.
   Stress ulcer: H2 blker
   VAP: Bundle
   Comments:
   Communication:  Comments:  w/ family.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Pt is critically ill
   ------ Protected Section ------
   Addendum to examination:
   General: Awake, minimal tracking.   Unable to assess response to
   commands.
   HEENT: PERRL.  Trach site clean. On ventilator. Sutures in place.
   RIJ.
   Heart: Regular S1,S2. No m/r/g
   Lungs: b/l anterior rales.
   Abd: +bs. Soft. Nt. Mildly distended.
   Ext:  1+ LE edema.  Mulitpodus b/l
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 7826**], MD
   on:[**2169-9-3**] 12:00 ------

2169-09-03 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Foley changed for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**]
   - Repeat PM Hct stable in PM
   - Unable to reach sign interpreter on weekends
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2169-9-1**] 05:22 AM
   Micafungin - [**2169-9-2**] 07:27 PM
   Vancomycin - [**2169-9-2**] 08:28 PM
   Cefipime - [**2169-9-2**] 11:45 PM
   Ciprofloxacin - [**2169-9-3**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-9-2**] 07:27 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-2**] 07:27 PM
   Midazolam (Versed) - [**2169-9-2**] 08:28 PM
   Fentanyl - [**2169-9-2**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-3**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 122 (93 - 138) bpm
   BP: 183/85(120) {98/55(73) - 183/93(120)} mmHg
   RR: 30 (26 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
    CVP: 7 (7 - 24)mmHg
   Total In:
                                                                  2,977 mL
                                                                    678 mL
   PO:
   TF:
                                                                    912 mL
                                                                    237 mL
   IVF:
                                                                  1,965 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,466 mL
                                                                    245 mL
   Urine:
                                                                  1,466 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,511 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 7.5 L/min
   Physical Examination
   General: Opens eyes to tactile stimulation, no acute distress, deaf
   HEENT: Sclera anicteric, MMM, oropharynx clear, trach in place, site
   intact, no erythema or pus
   Neck: supple, JVP elevated at ear, no LAD
   Lungs: Coarse breath sounds throughout, no rales, diffuse ronchi
   CV: Tachycardic, S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Hematoma on right arm.
   Labs / Radiology
   564 K/uL
   9.1 g/dL
   133 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   139 mEq/L
   29.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2169-8-31**]  01:40 PM
                             [**2169-8-31**]  03:46 PM
                             [**2169-8-31**]  07:39 PM
                             [**2169-9-1**]  04:30 AM
                             [**2169-9-1**]  04:37 AM
                             [**2169-9-1**]  07:34 AM
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
   WBC
   9.7
   12.3
   11.8
   Hct
   29.2
   24.5
   26.8
   29.0
   Plt
   [**Telephone/Fax (3) 7824**]
   Cr
   0.4
   0.4
   0.4
   TCO2
   30
   29
   30
   31
   30
   31
   Glucose
   102
   94
   133
   Other labs: PT / PTT / INR:13.3/35.9/1.1, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   [**9-1**] Cdiff
 negative
   [**8-29**] Pleural fluid
 NGTD
   [**8-29**] Blood cx and fungal cx - pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure now with fevers, tachycardia and hypotension.
   Septic Shock:  Source continues to be unclear although most likely
   etiology is lung given diffuse infiltrates which worsened prior to MICU
   transfer.  Now significantly improved s/p fluid resuscitation and broad
   spectrum antibiotics.  Urine and sputum with yeast, not yet speciated.
   Blood cultures negative.  No diarrhea.  Now off pressors.  Renal
   ultrasound negative for abscess.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - restart vasopressin if necessary
   - f/u cultures
   - blood, urine, sputum, pleural fluid cultures
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina to end on [**9-6**]
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**]
   - will change foley catheter again today
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Currently being
   ventilated per ARDSnet protocol given PaO2/FiO2 ratio less than 200 on
   presentation.  Also treating broadly for ventilator acquired pneumonia.
   - continue vancomycin, cefepime, ciprofloxacin for ventilator
   associated pneumonia day [**4-23**]
   - now tolerating 6 cc/kg without significant dysynchrony.  ABG with
   normalization pH
   - Plateau pressures stable in 20s
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restareted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days
   - PEG tube pending improved albumin; will speak to IP re: possibility
   next Mon/Tues
   s/p HIP fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-9-2**] 06:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2169-09-03 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI: 48 f w/ congenital deafness and developmental delay initially
   admitted to OSH following fall, s/p ORIF, chronic respiratory failure
   [**3-20**] ARDS, transferred for trach/PEG, sepsis likely from a pulmonary
   source.
   24 Hour Events:
   Foley changed for [**Female First Name (un) **]
   HCT stable.
   Continued on volume cycled ventilation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2169-9-1**] 05:22 AM
   Micafungin - [**2169-9-2**] 07:27 PM
   Cefipime - [**2169-9-2**] 11:45 PM
   Ciprofloxacin - [**2169-9-3**] 05:30 AM
   Vancomycin - [**2169-9-3**] 07:34 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-9-2**] 07:27 PM
   Midazolam (Versed) - [**2169-9-2**] 08:28 PM
   Fentanyl - [**2169-9-2**] 08:29 PM
   Famotidine (Pepcid) - [**2169-9-3**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-3**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 116 (93 - 143) bpm
   BP: 151/75(103) {101/57(75) - 183/91(125)} mmHg
   RR: 30 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
   CVP: 8 (4 - 15)mmHg
   Total In:
                                                                  2,978 mL
                                                                  1,320 mL
   PO:
   TF:
                                                                    912 mL
                                                                    435 mL
   IVF:
                                                                  1,965 mL
                                                                    795 mL
   Blood products:
   Total out:
                                                                  1,466 mL
                                                                  1,015 mL
   Urine:
                                                                  1,466 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,512 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 30
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.6 L/min
   Physical Examination
   General: Awake, minimal tracking.   Unable to assess response to
   commands.
   HEENT: PERRL.  Trach site clean. On ventilator. Sutures in place.
   RIJ.
   Heart: Regular S1,S2. No m/r/g
   Lungs: b/l anterior rales.
   Abd: +bs. Soft. Nt. Mildly distended.
   Ext:  1+ LE edema.  Mulitpodus b/l
   Labs / Radiology
   9.1 g/dL
   564 K/uL
   133 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   139 mEq/L
   29.0 %
   11.8 K/uL
        [image002.jpg]
   CXR: diffuse parenchymal opacities (LL predominant)
                             [**2169-8-31**]  01:40 PM
                             [**2169-8-31**]  03:46 PM
                             [**2169-8-31**]  07:39 PM
                             [**2169-9-1**]  04:30 AM
                             [**2169-9-1**]  04:37 AM
                             [**2169-9-1**]  07:34 AM
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
   WBC
   9.7
   12.3
   11.8
   Hct
   29.2
   24.5
   26.8
   29.0
   Plt
   [**Telephone/Fax (3) 7824**]
   Cr
   0.4
   0.4
   0.4
   TCO2
   30
   29
   30
   31
   30
   31
   Glucose
   102
   94
   133
   Other labs: PT / PTT / INR:13.3/35.9/1.1, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   48 f w/ congenital deafness and developmental delay initially admitted
   to OSH following fall, s/p ORIF, chronic respiratory failure [**3-20**] ARDS
   c/b ptx and hemothorax, s/p VATS ([**8-22**]), transferred to [**Hospital1 **] [**8-25**] and to
   MICU with sepsis likely from a pulmonary source on [**8-28**] (last CT tube
   removed [**8-28**]), now hemodynamically stable.
   1. Chronic resp failure
 s/p tracheostomy.   Stable on ARDSnet
   ventilation, w/ PIPs 25 and Peak 20s.  Currently not attempting
   aggressive wean given low tidal volume strategy and recent sepsis w/
   presumed pulmonary source and ongoing b/l infiltrates.
   2. Sepsis
 now resolved.  Bx Cx neg.  Only positive culture is urine
   w/ [**Female First Name (un) **].   On vanc/cefepime/cipro d5.  Initial PICC, RIJ sited after
   therapy started so lines have been changed appropriately.
   3. VAP
 empiric therapy as above.
   4. ARDS
 on ARDSnet ventilation for 4rd day.  Peaks 25, plat 21.  Will
   check ABG today.
   5. Delerium?
 unclear baseline.   Seems less responsive.  Plan to
   discuss w/ family, if not available will need to get ASL
   interpreter.
   6. Candiduria
 changed foley.  f/u UA pending.  Renal u/s neg for
   abscess.
   7. Anemia
  stable w/o transfustion.
   8.  Hemothorax
 R CT removed [**8-28**].
   9.  FEN
 TFs at goal.
   10.  Sedation- versed, begin transition to ativan initially via PEG.
   11. Analgesia- fentanyl
   ICU Care
   Nutrition:  Plan for PEG next week.
   Fibersource HN (Full) - [**2169-9-3**] 06:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I was physically present with the housestaff team on this date and
   independently examined the patient.  I would agree with the findings
   and plan as defined above and would add the following comments.
   48 yo female admitted with chronic respiratory failure to medical ICU.
   Patient is now s/p tracheostomy with evolution of significant sepsis
   [**2169-8-28**].  With IVF and ABX rx she has had improved sepsis.
   Patient had CVL
s changed completely and remains on antibiotic therapy
   which will continue.
   For persistent ventilatory failure will maintain pt on low volume
   ventilation with volume targeted ventilation and move to wean when
   patient able to maintain improved oxygenation and is still confronted
   with persistent infiltrates
will move to PSV today given favorable
   minute ventilation requirement, reasonable plateau pressure and
   excellent mental alertness.
   Critical Care Time-35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-3**] 16:00 ------

2169-09-04 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Added standing ativan and restarted home clomipramine qhs.
   - Noted to have purulent drainage from nares.
   - Tube feeds held at MN for possible PEG
   - Fluid status net even on lasix 10mg IV
   - On PS overnight with ABG 7.37/56/93 -> 7.38/53/97 -> 7.39/61/66 this
   AM. FiO2 increased to 50%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2169-9-2**] 07:27 PM
   Ciprofloxacin - [**2169-9-3**] 06:09 PM
   Vancomycin - [**2169-9-3**] 08:00 PM
   Caspofungin - [**2169-9-3**] 08:00 PM
   Cefipime - [**2169-9-4**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-3**] 12:58 PM
   Famotidine (Pepcid) - [**2169-9-3**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-4**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 115 (109 - 143) bpm
   BP: 104/61(80) {96/56(72) - 183/92(125)} mmHg
   RR: 15 (11 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
    CVP: 17 (4 - 17)mmHg
   Total In:
                                                                  3,129 mL
                                                                    532 mL
   PO:
   TF:
                                                                    960 mL
                                                                    264 mL
   IVF:
                                                                  1,989 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                    510 mL
   Urine:
                                                                  3,105 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     24 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 260 (260 - 260) mL
   Vt (Spontaneous): 462 (360 - 462) mL
   PS : 15 cmH2O
   RR (Set): 30
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 81
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.39/61/66/32/8
   Ve: 4.5 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General: Opens eyes to tactile stimulation, no acute distress, deaf
   HEENT: Sclera anicteric, MMM, oropharynx clear, trach in place, site
   intact, no erythema or pus
   Neck: supple, JVP elevated at ear, no LAD
   Lungs: Coarse breath sounds throughout, no rales, diffuse ronchi
   CV: Tachycardic, S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 1+r edema.
   Hematoma on right arm.
   Labs / Radiology
   602 K/uL
   9.1 g/dL
   135 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.5 mEq/L
   8 mg/dL
   100 mEq/L
   137 mEq/L
   29.6 %
   15.8 K/uL
        [image002.jpg]
                             [**2169-9-1**]  04:37 AM
                             [**2169-9-1**]  07:34 AM
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
   WBC
   12.3
   11.8
   15.8
   Hct
   24.5
   26.8
   29.0
   29.6
   Plt
   474
   564
   602
   Cr
   0.4
   0.4
   0.4
   TCO2
   31
   30
   31
   34
   33
   38
   Glucose
   94
   133
   135
   Other labs: PT / PTT / INR:12.6/35.4/1.1, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:318 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure now with fevers, tachycardia and hypotension.
   s/p Septic Shock:  Likely pulm etiology given diffuse infiltrates which
   worsened prior to MICU transfer.  Now significantly improved s/p fluid
   resuscitation and broad spectrum antibiotics although cx without
   growth.  Urine with persistent C. [**Month/Day/Year 7706**]; renal ultrasound negative
   for abscess. Blood cultures negative. No diarrhea and C. diff
   negative.  Now off pressors.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - restart vasopressin if necessary
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina to end on [**9-6**], started [**8-29**]
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] x 7 day course, started [**8-29**]
   - foley catheter changed; resend urine cx
   - f/u pending cultures
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Currently being
   ventilated per ARDSnet protocol given PaO2/FiO2 ratio less than 200 on
   presentation.  Also treating broadly for ventilator acquired pneumonia.
   - continue vancomycin, cefepime, ciprofloxacin for ventilator
   associated pneumonia, to end on [**9-6**]
   - now tolerating 6 cc/kg without significant dysynchrony; ABG with
   normalization of pH
   - Plateau pressures stable in 20s
   - lasix 10 mg IV for diuresis
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restarted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days
   - PEG tube pending improved albumin; will speak to IP re: possibility
   next Mon/Tues
   -[**Doctor First Name **] will hold off on PEG given low albumin.
   s/p hip fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   - boluses of sedation prn
   - start NG ativan to start weaning versed
   .
   Edema-likely [**3-20**] extensive volume resuscitation. Now normotensive. Will
   diuresis with plan for -500cc to 1L daily.
   ICU Care
   Nutrition: resume tube feeds. Will order nutrition consult for TPN in
   addition to tube feeds and will recheck albumin.
   Glycemic Control:
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:[**Hospital 704**] rehab once stable

2169-09-04 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   continued purulent drainage from nares noted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2169-9-2**] 07:27 PM
   Ciprofloxacin - [**2169-9-3**] 06:09 PM
   Caspofungin - [**2169-9-3**] 08:00 PM
   Cefipime - [**2169-9-4**] 12:00 AM
   Vancomycin - [**2169-9-4**] 08:38 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-3**] 12:58 PM
   Famotidine (Pepcid) - [**2169-9-4**] 08:38 AM
   Other medications:
   vanco IV, cefepime IV, Peridex, Versed gtt, Fentanyl gtt, RISS, Colace,
   Micafungin IV, Cipro IV, Famotidine, clomipramine, Ativan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-4**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 111 (109 - 135) bpm
   BP: 125/66(88) {96/56(72) - 177/92(123)} mmHg
   RR: 15 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 58.1 kg (admission): 45.5 kg
   Height: 60 Inch
   CVP: 17 (5 - 17)mmHg
   Total In:
                                                                  3,129 mL
                                                                  1,063 mL
   PO:
   TF:
                                                                    960 mL
                                                                    320 mL
   IVF:
                                                                  1,989 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                  1,110 mL
   Urine:
                                                                  3,105 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     24 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 260 (260 - 260) mL
   Vt (Spontaneous): 396 (360 - 462) mL
   PS : 15 cmH2O
   RR (Set): 30
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 81
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.39/61/66/32/8
   Ve: 5.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   602 K/uL
   135 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.5 mEq/L
   8 mg/dL
   100 mEq/L
   137 mEq/L
   29.6 %
   15.8 K/uL
        [image002.jpg]
                             [**2169-9-1**]  04:37 AM
                             [**2169-9-1**]  07:34 AM
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
   WBC
   12.3
   11.8
   15.8
   Hct
   24.5
   26.8
   29.0
   29.6
   Plt
   474
   564
   602
   Cr
   0.4
   0.4
   0.4
   TCO2
   31
   30
   31
   34
   33
   38
   Glucose
   94
   133
   135
   Other labs: PT / PTT / INR:12.6/35.4/1.1, Differential-Neuts:89.7 %,
   Band:0.0 %, Lymph:5.4 %, Mono:2.9 %, Eos:1.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:1.6 g/dL, LDH:318 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Imaging: [**9-4**] CXR- patchiy infiltrates unchanged
   Microbiology: all neg to date
   Assessment and Plan
   48 f w/ congenital deafness and developmental delay initially admitted
   to OSH following fall, s/p ORIF, chronic respiratory failure [**3-20**] ARDS
   c/b ptx and hemothorax, s/p VATS ([**8-22**]), transferred to [**Hospital1 **] [**8-25**] and to
   MICU with sepsis likely from a pulmonary source on [**8-28**] (last CT tube
   removed [**8-28**]), now hemodynamically stable.
   1. Chronic resp failure
 s/p tracheostomy [**8-28**].   Stable on ARDSnet
   ventilation, w/ PIPs 25 and Peak 20s.  Currently not attempting
   aggressive wean given low tidal volume strategy and recent sepsis w/
   presumed pulmonary source and ongoing b/l infiltrates.
   -diurese as below
   2. Sepsis
 now resolved.  Bx Cx neg.  Only positive culture is urine
   w/ [**Female First Name (un) **].
   -complete vanco + cefepime + cipro total 8d course for presumed VAP
   -complete 7d micafungin course today
   -concern for sinusitis given purulent nasal drainage; however would
   prefer not to d/c dobhoff as pt would then be without access for
   enteral feeds. On abx and will add saline nasal irrigation.
   3. Sedation- due to ICU meds, weaning sedation
   -daily assessment w/ ASL interpreter
   -transition back to home meds
   4. GI access- w/ Dobhoff, needs PEG but will require OR approach
   -tube feeds + TPN to improve nturition; per [**Doctor First Name **] goal albumin 2.0
   -follow pre-albumin and albumin levels
   5. Anasarca- total body fluid up, moving to dry phase of ARDS mgmt
   -diurese to goal neg -[**Telephone/Fax (1) 264**]/day w/ FACTT trial principle in mind
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: free H2o 50cc q6, cont tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2169-8-28**] 11:14 PM
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Comments: dc aline
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-09-05 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2169-9-4**] 03:51 PM
   - surgery does not want to place PEG until albumin > 2.0
   - prealbumin sent today
   - nutrition consulted, TFs changed to higher protein, held off on the
   TPN for today to see if change in feeds could help
   - working on diuresis, 10 mg IV lasix in AM, 20 mg IV lasix around 5pm,
   was negative about 1.5L
   - art line pulled, ABG and VBG correlated well
   - PS switched to MMV, tolerated well
   - day [**8-23**] of vanco/cefepime/cipro
   - tachy at night while being moved to 130s, down to 110s when sleeping
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2169-9-2**] 07:27 PM
   Caspofungin - [**2169-9-3**] 08:00 PM
   Vancomycin - [**2169-9-4**] 08:00 PM
   Cefipime - [**2169-9-5**] 12:00 AM
   Ciprofloxacin - [**2169-9-5**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-4**] 05:26 PM
   Famotidine (Pepcid) - [**2169-9-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2169-9-5**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 107 (98 - 127) bpm
   BP: 92/38(51) {88/38(51) - 133/78(84)} mmHg
   RR: 7 (6 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,290 mL
                                                                    894 mL
   PO:
             TF:
                                                                    754 mL
                                                                    319 mL
   IVF:
                                                                  1,355 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                    522 mL
   Urine:
                                                                  3,840 mL
                                                                    522 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,550 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 566 (396 - 566) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/56/78.[**Numeric Identifier 7**]/36/7
   Ve: 3.1 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Gen-sedated, Nad
   HEENT-nc/at, MMM
   Chest-b/l ae bronchial breath sounds
   Heart-s1s2 rrr no m/r/g
   Abd-+bs, soft, Nt, ND
   Ext-no c/c 1+edema
   Labs / Radiology
   630 K/uL
   8.8 g/dL
   120 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.0 mEq/L
   8 mg/dL
   97 mEq/L
   138 mEq/L
   28.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
   WBC
   12.3
   11.8
   15.8
   13.5
   Hct
   24.5
   26.8
   29.0
   29.6
   28.0
   Plt
   474
   564
   602
   630
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   31
   34
   33
   38
   36
   Glucose
   94
   133
   135
   120
   Other labs: PT / PTT / INR:12.6/35.4/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:8.4 %,
   Mono:4.5 %, Eos:3.7 %, Lactic Acid:0.8 mmol/L, Albumin:1.6 g/dL,
   LDH:321 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Assessment and Plan: 44 year old female with a history of mental
   retardation and deafness who was transferred from [**Hospital3 **] on
   [**2169-8-25**] for scheduled tracheostomy and PEG after a prolonged
   hospitalization from [**2170-7-25**] to [**2169-8-25**] complicated by multiple episodes
   of aspiration pneumonia and respiratory failure presented with fevers,
   tachycardia and hypotension.
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Treating for HAP-
   continue vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonia
   - low tidal volume ventilation
   .
   Shock:  Resolved. Most likely etiology was septic shock in the setting
   of fevers, tachycardia, leukocytosis and hypotension.  Patient has
   known severe lung disease from multiple recent aspiration events.  Her
   shock developed after discontinuation of antibiotics.  Sources could be
   pulmonary (no recent positive cultures), blood (PICC line in place),
   urine (recent cultures with [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**]) or stool.  Cardiac
   etiology of shock is unlikely given high cardiac output/index.
   Pulmonary embolism is of concern given lack of anticoagulation but
   would have to come from upper extremity veins given DVT filter in
   place.  EKG with sinus tachycardia but without signs of right heart
   strain.  Echocardiogram from [**8-7**] with elevated pulmonary pressures but
   preserved ejection fraction.  Stable hematocrit and nutritional status
   argue against hypovolemic shock.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - blood, urine, sputum, stool cultures NGTD
   - vancomycin, cefepime, ciprofloxacin for hospital acquired pneumonia
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**]-last dose today.
   - will get upper and lower extremity dopplers to assess for venous
   clots although unable to anticoagulate given hemothorax
   .
   Hemothorax:  Chest tube currently draining minimal serosanguinous
   fluid.  No air leak.
   - continue to monitor output
   .
   s/p HIP fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.
   - f/u final read of hip films
   - per orthopedics no surgical issues
   .
   ? Venous clots in femoral and internal jugular veins:  Right IJ widely
   patent on bedside ultrasound.  Central line now in place.
   - formal ultrasounds of bilateral upper and lower extremities pending
   ..
   Communication: [**Name (NI) **] mother [**Name (NI) 7700**] [**Name (NI) 1797**] [**Telephone/Fax (1) 7707**]. [**First Name8 (NamePattern2) 1686**]
   [**Last Name (NamePattern1) 6148**], Dept of Dev. Services, [**Telephone/Fax (1) 7870**] Ext 333.
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-19**]) - [**2169-9-5**] 01:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2169-09-05 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   no events overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2169-9-2**] 07:27 PM
   Caspofungin - [**2169-9-3**] 08:00 PM
   Cefipime - [**2169-9-5**] 12:00 AM
   Ciprofloxacin - [**2169-9-5**] 06:00 AM
   Vancomycin - [**2169-9-5**] 09:48 AM
   Infusions:
   Fentanyl (Concentrate) - 110 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-4**] 05:26 PM
   Famotidine (Pepcid) - [**2169-9-5**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-5**] 08:18 AM
   Other medications:
   vanco IV, cefepime IV, Peridex, RISS, colace, micafungin,
   Ciprofloxacin, ativan 2 tid, clomipramine,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-5**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 119 (98 - 125) bpm
   BP: 135/62(80) {88/38(51) - 137/78(84)} mmHg
   RR: 9 (6 - 17) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,290 mL
                                                                  1,415 mL
   PO:
             TF:
                                                                    754 mL
                                                                    435 mL
   IVF:
                                                                  1,355 mL
                                                                    910 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                    682 mL
   Urine:
                                                                  3,840 mL
                                                                    682 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,550 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 530 (407 - 566) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/56/78.[**Numeric Identifier 7**]/36/7
   Ve: 6.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed, much less agitated today
   Labs / Radiology
   8.8 g/dL
   630 K/uL
   120 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.0 mEq/L
   8 mg/dL
   97 mEq/L
   138 mEq/L
   28.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2169-9-2**]  03:15 AM
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
   WBC
   12.3CXR [**9-5**]
   11.8
   15.8
   13.5
   Hct
   24.5
   26.8
   29.0
   29.6
   28.0
   Plt
   474
   564
   602
   630
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   31
   34
   33
   38
   36
   Glucose
   94
   133
   135
   120
   Other labs: PT / PTT / INR:12.6/35.4/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:8.4 %,
   Mono:4.5 %, Eos:3.7 %, Lactic Acid:0.8 mmol/L, Albumin:1.6 g/dL,
   LDH:321 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: pre-albumin- pending
   Imaging: CXR [**9-5**]
   Assessment and Plan
   48 f w/ congenital deafness and developmental delay initially admitted
   to OSH following fall, s/p ORIF, chronic respiratory failure [**3-20**] ARDS
   c/b ptx and hemothorax, s/p VATS ([**8-22**]), transferred to [**Hospital1 **] [**8-25**] and to
   MICU with sepsis likely from a pulmonary source on [**8-28**] (last CT tube
   removed [**8-28**]), now hemodynamically stable.
   1. Chronic resp failure
 s/p tracheostomy [**8-28**].   Stable on ARDSnet
   ventilation, w/ PIPs 25 and Peak 20s.  Currently not attempting
   aggressive wean given low tidal volume strategy and recent sepsis w/
   presumed pulmonary source and ongoing b/l infiltrates.
   -diurese as below
   -PSV changed to MMV overnight for apneic spells --> minimize sedation
   if possible
   2. Sepsis
 completes course of VAP tx and [**Female First Name (un) **] UTI tomorrow (lat
   day ABX today)
   3. Sedation- due to ICU meds, weaning sedation
   -daily assessment w/ ASL interpreter
   -transition back to home meds (Klonopin and clomipramine)
   4. GI access- w/ Dobhoff, needs PEG but will require OR approach
   -tube feeds changed to high-protein formula TPN to improve nturition;
   per [**Doctor First Name **] goal albumin 2.0. Poss TPN if no progress
   -follow pre-albumin and albumin levels
   5. Anasarca- total body fluid up, moving to dry phase of ARDS mgmt
   -diurese to goal neg -[**Telephone/Fax (1) 264**]/day w/ FACTT trial principle in mind
   -consider albumin 5% if needed for tachycardia
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-19**]) - [**2169-9-5**] 01:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the MICU housestaff team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments:
   48 yo female with congenital deafness and developmental delay s/p ORIF
   with acute respiratory failure related to recurrent aspiration and
   barotraumas (PTX s/p CT). Major issues include:
   1. Acute renal failure: had recent ARDS/pneumonia with slow recovery-
   continues to require mechanical ventilation but appears to be
   tolerating small weans. Continue PS ventilation as tolerated
   2. VAP-Finishing a course of Vanc/cefipime
   3. anasarca/malnutrition: unable to have G-tube placed due to concerns
   that poor nutritional status (albumin 1.6-1.7) will impede wound
   healing. Tolerating high protein enteral feeds nearly at goal,
   nutrition involved, pre-albumin pending.
   4. Agitation: appears calmer today, working on weaning fentatnyl and
   versed infusions. Pt
s home regimen of klonipin started.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-5**] 15:58 ------

2169-09-06 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ativan switched to clonazepam
   - given 20 IV of lasx, Os>Is -200 ccs
   - versed drip weaned from 10 mg/hour to 7 mg/hour
   - patient placed on MMV overnight due to apnea
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2169-9-3**] 08:00 PM
   Vancomycin - [**2169-9-5**] 08:00 PM
   Cefipime - [**2169-9-6**] 12:00 AM
   Ciprofloxacin - [**2169-9-6**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 110 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-5**] 01:59 PM
   Famotidine (Pepcid) - [**2169-9-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2169-9-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 89 (88 - 132) bpm
   BP: 98/48(60) {85/44(46) - 154/91(98)} mmHg
   RR: 7 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  3,046 mL
                                                                    885 mL
   PO:
             TF:
                                                                    992 mL
                                                                    309 mL
   IVF:
                                                                  1,865 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  3,252 mL
                                                                    910 mL
   Urine:
                                                                  3,252 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -206 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 535 (407 - 684) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///38/
   Ve: 7.8 L/min
   Physical Examination
   Gen-sitting upright, more alert, but not able to sign after being given
   prompt.
   HEENT-nc/at, MMM
   Chest-b/l ae no w/c/r
   Heart-s1s2 rrr no m/r/g
   Abd-+bs, soft, NT, Nd
   Ext- 1+ b/l UE and Le edema, no c/c
   Neuro-unable to assess-
   Labs / Radiology
   646 K/uL
   8.6 g/dL
   118 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.9 mEq/L
   8 mg/dL
   96 mEq/L
   138 mEq/L
   27.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
   WBC
   11.8
   15.8
   13.5
   12.0
   Hct
   26.8
   29.0
   29.6
   28.0
   27.4
   Plt
   [**Telephone/Fax (3) 7895**]46
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   31
   34
   33
   38
   36
   Glucose
   133
   135
   120
   118
   Other labs: PT / PTT / INR:12.6/35.4/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:80.9 %, Band:0.0 %, Lymph:9.9 %,
   Mono:5.0 %, Eos:4.0 %, Lactic Acid:0.8 mmol/L, Albumin:1.6 g/dL,
   LDH:321 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure presented  with fevers, tachycardia and
   hypotension.
    .
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  Treating for VAP
   - continue vancomycin, cefepime, ciprofloxacin for ventilator
   associated pneumonia, to end today.
   - Plateau pressures stable in 20s
   - lasix 10-20 mg IV for diuresis, goal -1L
   -will attempt PSV today.
   s/p Septic Shock:  Likely pulm etiology given diffuse infiltrates which
   worsened prior to MICU transfer.  Now significantly improved s/p fluid
   resuscitation and broad spectrum antibiotics although cx without
   growth.  Urine with persistent C. [**Month/Day/Year 7706**]; renal ultrasound negative
   for abscess. Blood cultures negative. No diarrhea and C. diff
   negative.  Now off pressors.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina to end today.
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] x 7 day course, started [**8-29**],
   finished 2 days ago.
   - foley catheter changed; resent urine cx
   - f/u pending cultures-NGTD
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx-NGTD
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restarted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days, checking pre-albumin
   - PEG tube pending improved albumin;
   -[**Doctor First Name **] will hold off on PEG given low albumin.
   s/p hip fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   - boluses of sedation prn
   - start NG ativan to start weaning versed
   -resumed home clomipramine and will resume home dose klonapin today.
   .
   Edema-likely [**3-20**] extensive volume resuscitation. Now normotensive. Will
   diurese with plan for - 1L daily.
   -[**Hospital1 **] IV lasix
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-19**]) - [**2169-9-6**] 01:50 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until nutritional status, resp status improved.

2169-09-06 10:15:00 Physician Attending Progress Note
Chief Complaint: acute respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   *Ativan stopped and Klonipin started
   *20 mg IV lasix
   *MMV overnight due to episodic apnea's
   *Versed weaned
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Language barrier, intubated; deaf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2169-9-3**] 08:00 PM
   Cefipime - [**2169-9-6**] 12:00 AM
   Ciprofloxacin - [**2169-9-6**] 06:00 AM
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 90 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-5**] 01:59 PM
   Famotidine (Pepcid) - [**2169-9-6**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-6**] 07:59 AM
   Other medications:
   chlorhexidine, SSI, colace, klonipin 0.5 mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-6**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 127 (88 - 132) bpm
   BP: 105/63(73) {85/44(46) - 154/91(98)} mmHg
   RR: 21 (7 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  3,046 mL
                                                                  1,384 mL
   PO:
             TF:
                                                                    992 mL
                                                                    412 mL
   IVF:
                                                                  1,865 mL
                                                                    842 mL
   Blood products:
   Total out:
                                                                  3,252 mL
                                                                  1,075 mL
   Urine:
                                                                  3,252 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -206 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 189 (189 - 684) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: ///38/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, appears more alert, sitting
   up
   Eyes / Conjunctiva: PERRL; +Dobhoff, no further purulent nasal drainage
   according to RN
   Head, Ears, Nose, Throat: NG tube
   Lungs: CTA anteriorly
   Trach site intact
   CV: RRR no M/G
   Abd: soft, mildly distended, non-tender, +bs
   Skin:  warm, no rashes
   Neurologic: difficult to assess due to language barrier
   Labs / Radiology
   8.6 g/dL
   646 K/uL
   118 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.9 mEq/L
   8 mg/dL
   96 mEq/L
   138 mEq/L
   27.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2169-9-2**]  03:25 AM
                             [**2169-9-2**]  02:30 PM
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
   WBC
   11.8
   15.8
   13.5
   12.0
   Hct
   26.8
   29.0
   29.6
   28.0
   27.4
   Plt
   [**Telephone/Fax (3) 7895**]46
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   31
   34
   33
   38
   36
   Glucose
   133
   135
   120
   118
   Other labs: PT / PTT / INR:12.6/35.4/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:80.9 %, Band:0.0 %, Lymph:9.9 %,
   Mono:5.0 %, Eos:4.0 %, Lactic Acid:0.8 mmol/L, Albumin:1.6 g/dL,
   LDH:321 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: bil patchy diffuse infiltrates
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   44 yo female with MR [**First Name (Titles) **] [**Last Name (Titles) 7912**] delay with recurrent respiratory
   failure s/p ORIF in the setting of repeated aspiration and barotrauma.
   s/p trach placement with subsequent ARDS/VAP- now resolving.
   1. Acute respiratory failure -VAP/ARDS
   *continue on mechanical ventilation
   *Slow ventilator wean as respiratory status permits
   *To complete course of VAP abx today
   *Continue to diurese with net goal of - 1 liter today
   2. Tachycardia- appears partly mediated by anxiety
   *Encourage regular communication with ASL interpreter
   *Increase clonazepam to 1 mg [**Hospital1 **]
   *Continue weaning of versed and fentanyl as tolerated
   3. Anasarca - combination of fluid overload and hypoalbuminemia- plan
   to diurese net negative 1 liter today
   4. Malnutrtion- enteral feeds now at goal, on high-protein diet
   *pre-albumin pending
   *PEG tube placement ultimately. Due to poor nutritional status and need
   for open procedure, concerns for poor wound healing. Will discuss
   timing of PEG with surgery once nutritional status better.
   Other plans as per housestaff note.
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-19**]) - [**2169-9-6**] 01:50 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevated, mouth care, RSBI, wean sedation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-09-07 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -abx d/c'd as completed VAP course
   -klonapin increased to home dose 1mg [**Hospital1 **]
   -standing lasix
   -psv during the day
   -pre-albumin 9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2169-9-6**] 12:00 AM
   Ciprofloxacin - [**2169-9-6**] 06:00 AM
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Fentanyl (Concentrate) - 90 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-9-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-6**] 08:00 PM
   Furosemide (Lasix) - [**2169-9-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-7**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (99 - 142) bpm
   BP: 94/49(60) {86/43(53) - 135/78(93)} mmHg
   RR: 12 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,430 mL
                                                                    531 mL
   PO:
             TF:
                                                                  1,115 mL
                                                                    360 mL
   IVF:
                                                                  1,155 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  3,237 mL
                                                                    580 mL
   Urine:
                                                                  3,237 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -807 mL
                                                                    -49 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 422 (328 - 425) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///41/
   Ve: 4.5 L/min
   Physical Examination
   Gen-sitting upright, more alert, but not able to sign after being given
   prompt.
   HEENT-nc/at, MMM
   Chest-b/l ae no w/c/r
   Heart-s1s2 rrr no m/r/g
   Abd-+bs, soft, NT, Nd
   Ext- 1+ b/l UE and Le edema, no c/c
   Neuro-unable to assess-
   Labs / Radiology
   616 K/uL
   7.5 g/dL
   99 mg/dL
   0.3 mg/dL
   41 mEq/L
   3.7 mEq/L
   9 mg/dL
   93 mEq/L
   138 mEq/L
   23.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
   WBC
   11.8
   15.8
   13.5
   12.0
   9.5
   Hct
   29.0
   29.6
   28.0
   27.4
   23.6
   Plt
   [**Telephone/Fax (3) 7895**]46
   616
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   34
   33
   38
   36
   Glucose
   133
   135
   120
   118
   130
   99
   Other labs: PT / PTT / INR:12.8/34.9/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:78.2 %, Band:0.0 %, Lymph:11.6 %,
   Mono:6.2 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:321 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure presented  with fevers, tachycardia and hypotension
   and ARDS.
    .
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  s/p treatment of VAP
   with vanco, cefepime and cipro, ended on [**9-6**].
   - Plateau pressures stable in 20s
   - continuing to try to wean PS as possible
   - apneic at nighttime, and requiring MMV, likley due to metabolic
   alkalosis
   .
   Metabolic Alkalosis: worsening since diuresis intitiated last few
   days.  VBG showing CO2 in the 70s, likely contributing to her apnea
   overnight.
   - holding lasix
   - starting acetazolamide for diuresis and try to reverse alkalosis
   .
   Tachycardia:
   .
   Nutrition: patient still with low albumin, prealbumin is 9.  Plan is to
   increase nutritional status prior to surgery to place PEG tube.
   Continue high protein tube feeds.  Can consider TPN in future if
   albumin not changing.
   s/p Septic Shock:  Likely pulm etiology given diffuse infiltrates which
   worsened prior to MICU transfer.  Now significantly improved s/p fluid
   resuscitation and broad spectrum antibiotics although cx without
   growth.  Urine with persistent C. [**Month/Year (2) 7706**]; renal ultrasound negative
   for abscess. Blood cultures negative. No diarrhea and C. diff
   negative.  Now off pressors.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina to end today.
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] x 7 day course, started [**8-29**],
   finished 2 days ago.
   - foley catheter changed; resent urine cx
   - f/u pending cultures-NGTD
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx-NGTD
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restarted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days, checking pre-albumin
   - PEG tube pending improved albumin;
   -[**Doctor First Name **] will hold off on PEG given low albumin.
   s/p hip fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   - boluses of sedation prn
   - start NG ativan to start weaning versed
   -resumed home clomipramine and will resume home dose klonapin today.
   .
   Edema-likely [**3-20**] extensive volume resuscitation. Now normotensive. Will
   diurese with plan for - 1L daily.
   -[**Hospital1 **] IV lasix
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-19**]) - [**2169-9-6**] 11:10 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-09-07 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   back on MMV overnight for apneic spells. tolerating PSV otherwise.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2169-9-6**] 12:00 AM
   Ciprofloxacin - [**2169-9-6**] 06:00 AM
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Fentanyl (Concentrate) - 80 mcg/hour
   Midazolam (Versed) - 4.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-9-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-7**] 08:00 AM
   Furosemide (Lasix) - [**2169-9-7**] 08:00 AM
   Other medications:
   Klonopin, Lasix, Clomipramine, Pepcid, Fent gtt 80, Colace, RISS<
   Versed 4.5 gtt, Heparin sc, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-7**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 120 (99 - 142) bpm
   BP: 103/68(74) {86/43(53) - 135/78(93)} mmHg
   RR: 11 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,430 mL
                                                                    955 mL
   PO:
             TF:
                                                                  1,115 mL
                                                                    557 mL
   IVF:
                                                                  1,155 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  3,237 mL
                                                                  1,335 mL
   Urine:
                                                                  3,237 mL
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -807 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 340 (328 - 425) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///41/
   Ve: 3.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RLQ
   mass c/w stool
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   616 K/uL
   99 mg/dL
   0.3 mg/dL
   41 mEq/L
   3.7 mEq/L
   9 mg/dL
   93 mEq/L
   138 mEq/L
   23.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2169-9-3**]  03:17 AM
                             [**2169-9-3**]  06:21 PM
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
   WBC
   11.8
   15.8
   13.5
   12.0
   9.5
   Hct
   29.0
   29.6
   28.0
   27.4
   23.6
   Plt
   [**Telephone/Fax (3) 7895**]46
   616
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   34
   33
   38
   36
   Glucose
   133
   135
   120
   118
   130
   99
   Other labs: PT / PTT / INR:12.8/34.9/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:78.2 %, Band:0.0 %, Lymph:11.6 %,
   Mono:6.2 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L, Albumin:1.9 g/dL,
   LDH:321 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: pre-albumin- 9
   Microbiology: cx neg or pending
   Assessment and Plan
   44 yo female with MR [**First Name (Titles) **] [**Last Name (Titles) 7912**] delay with recurrent respiratory
   failure s/p ORIF in the setting of repeated aspiration and barotrauma.
   s/p trach placement with subsequent ARDS/VAP- now resolving.
   1. Acute respiratory failure -VAP/ARDS resolving, tolerating PSV by
   day, MMV by night
   -down-titrate PSV to 8 or [**11-20**]
   -completed ABX course for VAP
   -continue diuresis, still 7L positive over hosp stay.
   2. Met alkalosis- due to diuresis
   -check VBG to assess pH and pCO2. consider short-term acetazolamide tx
   3. Tachycardia- appears partly mediated by anxiety
   -Encourage regular communication with ASL interpreter
   -Increase clonazepam to 1 mg [**Hospital1 **]
   -Continue weaning of versed and fentanyl as tolerated, daily 10-20%
   wean
   4. Anasarca - combination of fluid overload and hypoalbuminemia- plan
   to diurese net negative 1 liter today
   -poss 5% albumin if needed
   5. Malnutrtion- enteral feeds now at goal, on high-protein diet
   -pre-albumin low, cont high-protein tube feeds
   -needs eventual open PEG placement once albumin > 2.0
   6. Constipation- bowel regimen today
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-19**]) - [**2169-9-6**] 11:10 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the MICU housestaff team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments:
   44 yo female with mental retardation and deafness s/p ORIF with
   recurrent aspiration, acute respiratory failure, PTX and hemothorax.
   s/p trach, recovering from VAP/ARDS. Her major issues include:
   1.       Acute respiratory failure: continue to require mechanical
   ventilation, though tolerating slow wean
             *Pt now on PS 8 ventilation, will continue to wean\
             *Remains volume overloaded, diuresis gently
   2.       Poor nutrition: Enteral feeds at goal. Will continue to assess
   nutritional status with goal of PEG placement when albumin adequate
   3.       Anxiety: she is now on her home regimen of clonazepam, and
   appears more alert on lower levels of sedation. Still on continuous
   infusions of midazolam and fentanyl which we will continue to decrease.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-7**] 15:35 ------

2169-09-08 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - increasing alkalosis, VBG 7.46/76/36
   - held lasix and switched to acetazolamide
   - trial with albumin did not decrease her tachycardia
   - somewhat tender in belly exam, bowel regimen started
   - pt more awake
   - pulled out Dobhoff
   - held PO meds, increased midaz PRN for tachycardia/aggitation
   - thoracics was made aware, called back and said that they don't want
   to put the dobhoff in - we can try at bedside or get IR guided one;
   also said they no longer want to be responsible for PEG and consider
   general surgery consult
   - needed MMV overnight again
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2169-9-6**] 12:00 AM
   Ciprofloxacin - [**2169-9-6**] 06:00 AM
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-7**] 08:00 AM
   Fentanyl - [**2169-9-7**] 04:00 PM
   Famotidine (Pepcid) - [**2169-9-7**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-7**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-8**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 116 (90 - 137) bpm
   BP: 125/57(75) {95/36(49) - 145/84(119)} mmHg
   RR: 11 (5 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,840 mL
                                                                    125 mL
   PO:
             TF:
                                                                    850 mL
   IVF:
                                                                    530 mL
                                                                    125 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  2,320 mL
                                                                    570 mL
   Urine:
                                                                  2,320 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -480 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 310 (310 - 447) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   SpO2: 98%
   ABG: ///39/
   Ve: 4 L/min
   Physical Examination
   Gen-sitting upright, more alert, but not able to sign after being given
   prompt.
   HEENT-nc/at, MMM
   Chest-b/l ae no w/c/r
   Heart-s1s2 rrr no m/r/g
   Abd-+bs, soft, NT, Nd
   Ext- 1+ b/l UE and Le edema, no c/c
   Neuro-unable to assess-but more more alert
   Labs / Radiology
   584 K/uL
   7.0 g/dL
   80 mg/dL
   0.3 mg/dL
   39 mEq/L
   3.7 mEq/L
   8 mg/dL
   96 mEq/L
   139 mEq/L
   22.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
   WBC
   15.8
   13.5
   12.0
   9.5
   9.7
   Hct
   29.6
   28.0
   27.4
   23.6
   22.0
   Plt
   [**Telephone/Fax (3) 7931**]16
   584
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   33
   38
   36
   Glucose
   135
   120
   118
   130
   99
   91
   80
   Other labs: PT / PTT / INR:12.8/34.9/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:78.2 %, Band:0.0 %, Lymph:11.6 %,
   Mono:6.2 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:321 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   .
   .
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure presented  with fevers, tachycardia and hypotension
   and ARDS.
    .
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  s/p treatment of VAP
   with vanco, cefepime and cipro, ended on [**9-6**].
   - Plateau pressures stable in 20s
   - continuing to try to wean PS as possible
   - recently apneic at nighttime, and requiring MMV, likley due to
   metabolic alkalosis
   -attempt to keep on PSV today, with possibly wean to trach collar after
   lightening sedation.
   .
   Metabolic Alkalosis: worsening since diuresis intitiated last few
   days.  VBG showing CO2 in the 70s, likely contributing to her apnea
   overnight.
   - holding lasix
   - starting acetazolamide for diuresis and try to reverse alkalosis,
   will increased dose today given blood transfusion.
   ..
   Nutrition: patient still with low albumin, prealbumin is 9.  Plan is to
   increase nutritional status prior to surgery to place PEG tube.
   Continue high protein tube feeds.  Can consider TPN in future if
   albumin not changing.
   -will ask thoracics re: PEG today. If no plan, will need IR guided
   dobhoff and if no PO access will need to start TPN.
   .
   Anemia-no clear source of bleeding. Pt with recent abd pain, could be
   secondary to abd pathologyl.
   -continue [**Hospital1 **] HCt
   -access appropriate
   -T+S
   -transfuse 1 unit PRBCs.
   s/p Septic Shock:  Likely pulm etiology given diffuse infiltrates which
   worsened prior to MICU transfer.  Now significantly improved s/p fluid
   resuscitation and broad spectrum antibiotics although cx without
   growth.  Urine with persistent C. [**Hospital1 7706**]; renal ultrasound negative
   for abscess. Blood cultures negative. No diarrhea and C. diff
   negative.  Now off pressors.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina completed
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] x 7 day course, started [**8-29**],
   completed.
   - foley catheter changed; resent urine cx
   - f/u pending cultures-NGTD
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx-NGTD
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restarted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days, checking pre-albumin
   - PEG tube pending improved albumin;
   -[**Doctor First Name **] will hold off on PEG given low albumin.
   -increased bowel regimen, as no BM recently
   s/p hip fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   - boluses of sedation prn
   - unable to get PO meds currently as without access
   -resumed home clomipramine and will resume home dose klonapin, no PO
   access currently.,
   .
   Edema-likely [**3-20**] extensive volume resuscitation. Now normotensive. Will
   diurese with plan for - 1L daily.
   -[**Hospital1 **] diamox for now.
   ICU Care
   Nutrition: No PO access as above. Will consult nutrition.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Prophylaxis:
   DVT: pneumoboots, HSC
   Stress ulcer: H2 blocker.
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2169-09-08 09:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   no HR response to albumin challenge.  Dobhoff tube self dc'd yesterday.
   switched back to MMV overnight for apneic spells. fentanyl gtt
   increased for agitation. No BM yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2169-9-6**] 12:00 AM
   Ciprofloxacin - [**2169-9-6**] 06:00 AM
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2169-9-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-7**] 08:20 PM
   Famotidine (Pepcid) - [**2169-9-8**] 08:00 AM
   Other medications:
   Pepcid, fenatnyl gtt, versed gtt, RISS, heparin sc, peridex,
   acetazolamide 250 iv q12
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-8**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 103 (90 - 137) bpm
   BP: 109/56(69) {95/36(49) - 145/84(119)} mmHg
   RR: 17 (5 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,840 mL
                                                                    194 mL
   PO:
             TF:
                                                                    850 mL
   IVF:
                                                                    530 mL
                                                                    194 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  2,320 mL
                                                                    720 mL
   Urine:
                                                                  2,320 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -480 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 141 (141 - 447) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///39/
   Ve: 3.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   584 K/uL
   80 mg/dL
   0.3 mg/dL
   39 mEq/L
   3.7 mEq/L
   8 mg/dL
   96 mEq/L
   139 mEq/L
   22.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2169-9-3**]  08:06 PM
                             [**2169-9-4**]  05:03 AM
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
   WBC
   15.8
   13.5
   12.0
   9.5
   9.7
   Hct
   29.6
   28.0
   27.4
   23.6
   22.0
   Plt
   [**Telephone/Fax (3) 7931**]16
   584
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   33
   38
   36
   Glucose
   135
   120
   118
   130
   99
   91
   80
   Other labs: PT / PTT / INR:12.8/34.9/1.1, ALT / AST:25/20, Alk Phos / T
   Bili:242/0.2, Differential-Neuts:78.2 %, Band:0.0 %, Lymph:11.6 %,
   Mono:6.2 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:321 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Microbiology: all cx neg or pending
   Assessment and Plan
   44 yo female with MR [**First Name (Titles) **] [**Last Name (Titles) 7912**] delay with recurrent respiratory
   failure s/p ORIF in the setting of repeated aspiration and barotrauma.
   s/p trach placement with subsequent ARDS/VAP- now resolving.
   1. Acute respiratory failure -VAP/ARDS resolving, tolerating PSV by
   day, MMV by night
   -down-titrate PSV to 8 or [**6-20**] today, possible trach collar trial
   -completed ABX course for VAP
   -continue diuresis, still 7L positive over hosp stay.
   2. Met alkalosis- due to diuresis
   -switched to acetazolamide
   3. Tachycardia- appears partly mediated by anxiety, possibly related to
   anemia
   -Encourage regular communication with ASL interpreter
   -not getting po clonazepam or clomipramine without Dobhoff access
   -Continue weaning off versed and fentanyl as tolerated, daily 10-20%
   wean
   4. Anemia- no source of bleeding, perhaps due to chronic disease
   -guaiac stools
   -serial hct
   -transfuse 1u prbc
   5. Anasarca - combination of fluid overload and hypoalbuminemia
   -plan to diurese net negative -500 to -1000 daily
   -increase acetazolamide 500 iv q12
   6. Malnutrtion- now without Dobhoff GI access
   -touch base w/ thoracic [**Initials (NamePattern4) 7932**] [**Doctor First Name 91**] re: open PEG placement
   -IR for poss dobhoff placement
   ICU Care
   Nutrition:
   Comments: npo for lack of GI access, may consult Nutrition for TPN
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   Comments: place PICC and pull CVC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined this pt, and was present with MICU housestaff team
   for the relevant portions of the services provided. I agree with the
   note as outlined above by Dr. [**Last Name (STitle) 4052**], and would add: 44 yo f with
   MR [**First Name (Titles) **] [**Last Name (Titles) 7912**] delay and deafness, s/p ORIF with recurrent
   aspiration and respiratory failure. S/p trach and now recovering from
   resolving VAP/ARDS. Her major issues include:
   1. Acute respiratory failure/VAP/ARDS: remains ventilator dependent but
   slow improv
t this week. Briefly on  trach collar trial this morning.
   Will continue to attempt TC as tolerated, PSV otherwise. Has
   intermittently required MMV for apneic spells but this should hopefully
   decrease as her sedation is further weaned. Continue  to diurese.
   2. Malnutrtion: pt pulled out Dobhoff tube yesterday. Albumin improved
   but still borderline at 1.9. Spoke with thoracics- as Dobhoff placement
   was extremely difficult even under direct endoscopic guidance, will
   temporize with TPN. Tentatively for G-tube placement within the next
   wk.
   3. Agitation: improving, tolerating sedation wean.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-8**] 17:51 ------

2169-09-09 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2169-9-8**] 01:00 PM
   .
   - Patient tolerated TCM for several hours during the day
   - started on TPN
   - No PO access.  Reportedly, it took over an hour with direct
   visualization in OR to place NGT previously, so no plans for NGT in the
   interim.  Pt is awaiting G-tube placement next week by thoracics
   - acetazolamide dose was increased with good effect; diuresed ____ L
   - a picc line was placed at the bedside
   - transfused 1 units PRBCs, Hct 22.0 --> 31.3
   - Bicarb and venous PCO2 are trending down with the addition of
   acetazolamide
   - patient more alert and interactive
   - patient had a BM
   - tachycardic and agitated overnight, but responded to ativan
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-9-8**] 08:45 AM
   Famotidine (Pepcid) - [**2169-9-8**] 08:00 PM
   Lorazepam (Ativan) - [**2169-9-9**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2169-9-9**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 119 (102 - 131) bpm
   BP: 135/70(83) {103/53(66) - 155/85(101)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,147 mL
                                                                    448 mL
   PO:
             TF:
   IVF:
                                                                    549 mL
                                                                    117 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,085 mL
                                                                    980 mL
   Urine:
                                                                  2,085 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -938 mL
                                                                   -531 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 327 (141 - 327) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.7 L/min
   Physical Examination
   Gen-sitting upright, more alert, waves hi
   HEENT-nc/at, MMM
   Chest-b/l ae no w/c/r
   Heart-s1s2 rrr no m/r/g
   Abd-+bs, soft, NT, Nd
   Ext- 1+ b/l UE and Le edema, no c/c
   Neuro-unable to assess-but more more alert
   Labs / Radiology
   655 K/uL
   9.8 g/dL
   92 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   31.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
   WBC
   13.5
   12.0
   9.5
   9.7
   12.5
   Hct
   28.0
   27.4
   23.6
   22.0
   31.3
   31.0
   Plt
   [**Telephone/Fax (3) 7948**]84
   655
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   38
   36
   Glucose
   120
   118
   130
   99
   91
   80
   136
   92
   Other labs: PT / PTT / INR:12.8/34.9/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.5 %,
   Band:0.0 %, Lymph:9.3 %, Mono:7.0 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   .
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure presented  with fevers, tachycardia and hypotension
   and ARDS.
    .
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  s/p treatment of VAP
   with vanco, cefepime and cipro, ended on [**9-6**].
   - currently on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 996**] mask
   - recently apneic at nighttime, and requiring MMV, likley due to
   metabolic alkalosis
   -continue to wean sedation, to bolus rather than gtt.
   -continue appropriate suctioning.
   .
   Metabolic Alkalosis:  since diuresis intitiated last few days.  VBG
   showing CO2 in the 70s, likely contributing to her apnea overnight.
   - holding lasix
   - started acetazolamide for diuresis and try to reverse alkalosis, last
   dose today.
   ..
   Nutrition: patient still with low albumin, prealbumin is 9.  Plan is to
   increase nutritional status prior to surgery to place PEG tube.
   Continue high protein tube feeds.  Had to switch to TPN given no PO
   access.
   -awaiting thoracics placement of PEG tube next week.
   .
   leukocytosis-no clear signs of infection. Has just completed tx for Uti
   and VAP. Will continue to monitor currently and trend fever curve.
   .
   Anemia-no clear source of bleeding. Pt with recent abd pain, could be
   secondary to abd pathology.
   -continue to monitor HCT.
   -access appropriate
   -T+S
   -transfused 1 unit PRBCs. Recently.
   s/p Septic Shock:  Likely pulm etiology given diffuse infiltrates which
   worsened prior to MICU transfer.  Now significantly improved s/p fluid
   resuscitation and broad spectrum antibiotics although cx without
   growth.  Urine with persistent C. [**Last Name (NamePattern4) 7706**]; renal ultrasound negative
   for abscess. Blood cultures negative. No diarrhea and C. diff
   negative.  Now off pressors.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina completed
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] x 7 day course, started [**8-29**],
   completed.
   - foley catheter changed; resent urine cx
   - f/u pending cultures-NGTD
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx-NGTD
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restarted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days, checking pre-albumin
   - PEG tube pending improved albumin;
   -[**Doctor First Name **] will hold off on PEG given low albumin.
   -increased bowel regimen, as no BM recently
   s/p hip fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   - boluses of sedation prn
   - unable to get PO meds currently as without access
   -resumed home clomipramine and will resume home dose klonapin, no PO
   access currently.,
   .
   Edema-likely [**3-20**] extensive volume resuscitation. Now normotensive. Will
   diurese with plan for - 1L daily.
   -[**Hospital1 **] diamox for now, will plan to use lasix tomorrow for goal.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-8**] 06:47 PM 42.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   PICC Line - [**2169-9-8**] 01:00 PM
   Prophylaxis:
   DVT: hep SC and pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2169-09-09 08:21:00 Physician Attending Progress Note
Chief Complaint:
   Weaning sedatives
   HPI:
   24 Hour Events:
 PICC LINE - START [**2169-9-8**] 01:00 PM
   TPN started yesterday
 dobhoff unable to be replaced. Awaiting g-tube
   placement by surgery.
   On acetazolamide with good affect
   Transfused 1 pRBC
s- appropriate bump
   More alert during day, yesterday, required ativan overnight for
   agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-6**] 08:23 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-9**] 05:03 AM
   Famotidine (Pepcid) - [**2169-9-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-9**] 08:00 AM
   Other medications:
   NO PO MEDS
   Pepcid
   Insulin sliding scale
   Heparin
   Chlorhex
   Acetazolamide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-9**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 115 (102 - 131) bpm
   BP: 123/62(77) {103/53(66) - 155/85(101)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,147 mL
                                                                    529 mL
   PO:
             TF:
   IVF:
                                                                    549 mL
                                                                    175 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,085 mL
                                                                  1,230 mL
   Urine:
                                                                  2,085 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -938 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   FiO2: 40%
   Physical Examination
   General- NAD, comfortable, but sleepy
   HEENT
 EOMI, PERRL
   Neck - supple
   Chest Rhonchi L>R no wheezes
   Heart tachycardic no murmurs
   Abd soft, NT/ND
   Ext 2+ pitting edema
   Skin no rash
   Labs / Radiology
   9.8 g/dL
   655 K/uL
   92 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   31.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2169-9-4**]  05:08 AM
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
   WBC
   13.5
   12.0
   9.5
   9.7
   12.5
   Hct
   28.0
   27.4
   23.6
   22.0
   31.3
   31.0
   Plt
   [**Telephone/Fax (3) 7948**]84
   655
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   38
   36
   Glucose
   120
   118
   130
   99
   91
   80
   136
   92
   Other labs: PT / PTT / INR:12.8/34.9/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.5 %,
   Band:0.0 %, Lymph:9.3 %, Mono:7.0 %, Eos:3.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.5
   mg/dL
   CXR- none today
   No new micro
   Assessment and Plan
   44 yo female with MR [**First Name (Titles) **] [**Last Name (Titles) 7912**] delay with recurrent respiratory
   failure s/p ORIF in the setting of repeated aspiration and barotrauma.
   s/p trach placement with subsequent ARDS/VAP- now resolving.
   1. Acute respiratory failure -VAP/ARDS resolving, tolerating PSV by
   day, MMV by night
   -doing very well on trach mask, lighten sedation
 continue suctioning
 left lung sounded rhonchorous
   -completed ABX course for VAP
   -continue diuresis, still 7L positive over hosp stay.
   2. Met alkalosis- due to diuresis
   -switched to acetazolamide
 last day today
   -resume lasix
   3. Leukocytosis
 12.5, but increased from yesterday. Afebrile. There
   are secretions on the left side. If spikes check sputum and CXR.  Could
   also be hemoconcentration.
   4. Tachycardia- appears partly mediated by anxiety, possibly related to
   anemia
   -Encourage regular communication with ASL interpreter
   -not getting po clonazepam or clomipramine without Dobhoff access
   -Continue weaning off versed and fentanyl as tolerated, daily 10-20%
   wean
   -will switch to bolus sedation
   5. Anemia- no source of bleeding, perhaps due to chronic disease
   -guaiac stools
   -serial hct
   -transfused 1u prbc
   6. Anasarca - combination of fluid overload and hypoalbuminemia
   -plan to diurese net negative -500 to -1000 daily
   -acetazolamide 500 iv q12
 last day today, then resume lasix tomorrow
   7. Malnutrition- now without Dobhoff GI access
   -touch base w/ thoracic [**Initials (NamePattern4) 7932**] [**Doctor First Name 91**] re: open PEG placement
 early next
   week
   - continue TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-8**] 06:47 PM 42.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2169-8-29**] 04:12 PM
   PICC Line - [**2169-9-8**] 01:00 PM
   Prophylaxis:
   DVT: boots and heparin
   Stress ulcer:  changing to ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 30 minutes

2169-09-10 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-9**]
   -TPN continued
   -weaned fentanyl/versed to bolus sedation
   -H2 changed to protonix
   -on trach collar
   -finished diamox course
   -much more interactive, several BMs.
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-9-9**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-9-9**] 08:00 AM
   Midazolam (Versed) - [**2169-9-9**] 05:20 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-9**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 103 (91 - 139) bpm
   BP: 157/69(92) {112/56(72) - 157/107(169)} mmHg
   RR: 32 (17 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,450 mL
                                                                    462 mL
   PO:
             TF:
   IVF:
                                                                    371 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  4,445 mL
                                                                    710 mL
   Urine:
                                                                  4,445 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,995 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   711 K/uL
   10.3 g/dL
   174 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   138 mEq/L
   32.1 %
   16.1 K/uL
        [image002.jpg]
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
   WBC
   13.5
   12.0
   9.5
   9.7
   12.5
   16.1
   Hct
   28.0
   27.4
   23.6
   22.0
   31.3
   31.0
   32.1
   Plt
   [**Telephone/Fax (3) 7948**]84
   655
   711
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   TCO2
   36
   Glucose
   120
   118
   130
   99
   91
   80
   136
   92
   174
   Other labs: PT / PTT / INR:12.8/33.7/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:89.2 %,
   Band:0.0 %, Lymph:6.0 %, Mono:4.6 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   who was transferred from [**Hospital3 **] on [**2169-8-25**] for scheduled
   tracheostomy and PEG after a prolonged hospitalization from [**2170-7-25**] to
   [**2169-8-25**] complicated by multiple episodes of aspiration pneumonia and
   respiratory failure presented  with fevers, tachycardia and hypotension
   and ARDS.
    .
   Respiratory Failure/ARDS:  Now s/p tracheostomy.  s/p treatment of VAP
   with vanco, cefepime and cipro, ended on [**9-6**].
   - currently on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 996**] mask
   - recently apneic at nighttime, and requiring MMV, likley due to
   metabolic alkalosis
   -continue to wean sedation, to bolus rather than gtt.
   -continue appropriate suctioning.
   .
   Metabolic Alkalosis:  since diuresis intitiated last few days.  VBG
   showing CO2 in the 70s, likely contributing to her apnea overnight.
   - holding lasix
   - started acetazolamide for diuresis and try to reverse alkalosis, last
   dose today.
   ..
   Nutrition: patient still with low albumin, prealbumin is 9.  Plan is to
   increase nutritional status prior to surgery to place PEG tube.
   Continue high protein tube feeds.  Had to switch to TPN given no PO
   access.
   -awaiting thoracics placement of PEG tube next week.
   .
   leukocytosis-no clear signs of infection. Has just completed tx for Uti
   and VAP. Will continue to monitor currently and trend fever curve.
   .
   Anemia-no clear source of bleeding. Pt with recent abd pain, could be
   secondary to abd pathology.
   -continue to monitor HCT.
   -access appropriate
   -T+S
   -transfused 1 unit PRBCs. Recently.
   s/p Septic Shock:  Likely pulm etiology given diffuse infiltrates which
   worsened prior to MICU transfer.  Now significantly improved s/p fluid
   resuscitation and broad spectrum antibiotics although cx without
   growth.  Urine with persistent C. [**Last Name (NamePattern4) 7706**]; renal ultrasound negative
   for abscess. Blood cultures negative. No diarrhea and C. diff
   negative.  Now off pressors.
   - IVF for urine output < 30 cc/hr, CVP < [**11-27**], MAP < 60, SVV < [**1-28**]
   - vancomycin, cefepime, ciprofloxacin for ventilator associated
   pneumonina completed
   - micafungin for [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 7706**] x 7 day course, started [**8-29**],
   completed.
   - foley catheter changed; resent urine cx
   - f/u pending cultures-NGTD
   Hemothorax:  Chest tube removed and pleural fluid cx with no growth
   thus far.
   - trend hematocrit daily
   - f/u pleural fluid cx-NGTD
   Firm abdomen: KUB without obstruction or ileus but appeared
   constipated; now resolved with aggressive bowel regimen. Tube feeds
   restarted and tolerating well.  NGT not placed secondary to surgically
   created nasal passages.
   - continue tube feeds
   - repeat albumin in several days, checking pre-albumin
   - PEG tube pending improved albumin;
   -[**Doctor First Name **] will hold off on PEG given low albumin.
   -increased bowel regimen, as no BM recently
   s/p hip fracture:  No signs of dislocation.  Wound healing well.  SICU
   team had obtained plain films of hip for assessment.  Hip films without
   evidence of misalignment.
   - per orthopedics no surgical issues
   Tachycardia: Likely [**3-20**] anxiety. Very stimulus-dependent.
   - monitor on tele
   - boluses of sedation prn
   - unable to get PO meds currently as without access
   -resumed home clomipramine and will resume home dose klonapin, no PO
   access currently.,
   .
   Edema-likely [**3-20**] extensive volume resuscitation. Now normotensive. Will
   diurese with plan for - 1L daily.
   -[**Hospital1 **] diamox for now, will plan to use lasix tomorrow for goal.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-9**] 06:10 PM 52.[**Telephone/Fax (3) 550**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-9-8**] 01:00 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:  protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2169-09-10 08:15:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-9-9**] 06:00 PM
   On trach mask all day, tolerated well
   Switched to bolus sedation yesterday
 but did not require any
   additional sedation
   TPN continued
   CVL pulled
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2169-9-9**] 05:20 PM prn
   Heparin Sodium (Prophylaxis) - [**2169-9-9**] 08:33 PM
   Other medications:
   NO PO MEDS
   Heparin subcut
   Ppi
   Versed prn
   Fentanyl prn
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited due to pt
s cognitive impairment
   Flowsheet Data as of  [**2169-9-10**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 103 (91 - 139) bpm
   BP: 157/69(92) {112/56(72) - 157/101(169)} mmHg
   RR: 32 (17 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,450 mL
                                                                    511 mL
   PO:
             TF:
   IVF:
                                                                    371 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  4,445 mL
                                                                    710 mL
   Urine:
                                                                  4,445 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,995 mL
                                                                   -199 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   EOMI, PERRL
   RRR
 no longer tachy
   Diffuse rhonchi, thick secretions
   No edema- significant improvement
   Labs / Radiology
   10.3 g/dL
   711 K/uL
   174 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   138 mEq/L
   32.1 %
   16.1 K/uL
        [image002.jpg]
                             [**2169-9-4**]  11:04 AM
                             [**2169-9-5**]  03:16 AM
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
   WBC
   13.5
   12.0
   9.5
   9.7
   12.5
   16.1
   Hct
   28.0
   27.4
   23.6
   22.0
   31.3
   31.0
   32.1
   Plt
   [**Telephone/Fax (3) 7948**]84
   655
   711
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   TCO2
   36
   Glucose
   120
   118
   130
   99
   91
   80
   136
   92
   174
   Other labs: PT / PTT / INR:12.8/33.7/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:89.2 %,
   Band:0.0 %, Lymph:6.0 %, Mono:4.6 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   89% polys
   CXR- ordered for this afternoon
   Assessment and Plan
   44 yo female with MR [**First Name (Titles) **] [**Last Name (Titles) 7912**] delay with recurrent respiratory
   failure s/p ORIF in the setting of repeated aspiration and barotrauma.
   s/p trach placement with subsequent ARDS/VAP- now resolving.
   1. Acute respiratory failure -VAP/ARDS resolving, on trach mask, during
   very well
   -doing very well on trach mask, lighten sedation
 continue suctioning
 both lungs sounded rhonchorous
   -completed ABX course for VAP
   -can slow on diuresis
   2. Met alkalosis- due to diuresis
   -d/c acetazolamide today
   -monitor I/O
 goal -500cc today
   3. Leukocytosis
 16 today, continuing to rise. Afebrile. There are
   lots of thin secretions. check sputum, UA and CXR, now. Blood cx if
   spikes.
   4. Tachycardia- appears partly mediated by anxiety, possibly related to
   anemia
 much improved today
   -Encourage regular communication with ASL interpreter
   -not getting po clonazepam or clomipramine without Dobhoff access
   -ativan prn as needed
   5. Anemia- no source of bleeding, perhaps due to chronic disease
   -stable
   6. Anasarca - combination of fluid overload and hypoalbuminemia
 much
   improved, albumin going up
   7. Malnutrition- now without Dobhoff GI access
   -touch base w/ thoracic [**Initials (NamePattern4) 7932**] [**Doctor First Name 91**] re: open PEG placement
 early next
   week
   - continue TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-9**] 06:10 PM 52.[**Telephone/Fax (3) 550**] mL/hour
   Glycemic Control:  sliding scale
   Lines: picc
   PICC Line - [**2169-9-8**] 01:00 PM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for frequent suctioning
   Total time spent:  30 minutes

2169-09-12 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2169-9-11**] 12:58 PM
 PICC LINE - START [**2169-9-11**] 05:32 PM
   - S&S eval showed aspiration
   - scheduled for PEG on Wednesday at 2:45 PM
   - contact[**Name (NI) **] Orthopedic surgeon: Dr. [**Last Name (STitle) 7976**], [**Location (un) 7977**], [**Hospital1 714**], [**Numeric Identifier 7978**], at ([**Telephone/Fax (1) 7979**].  ORIF of right hip performed on
   [**2169-7-26**].  Awaiting response re: when she can weight bear.
   - PICC placed
   - bronch unremarkable, no abx started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2169-9-11**] 12:57 PM
   Fentanyl - [**2169-9-11**] 12:57 PM
   Furosemide (Lasix) - [**2169-9-11**] 07:41 PM
   Heparin Sodium (Prophylaxis) - [**2169-9-11**] 08:00 PM
   Lorazepam (Ativan) - [**2169-9-11**] 10:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-12**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 92 (59 - 92) bpm
   BP: 171/82(104) {130/51(78) - 177/82(104)} mmHg
   RR: 21 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,493 mL
                                                                    518 mL
   PO:
             TF:
   IVF:
                                                                  1,266 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    500 mL
   Urine:
                                                                  2,305 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -812 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Gen: NAD, alert
   HEENT: Trached,
   CV: RRR nom/r/g
   Pulm: coarse bs bilaterally
   Abd: soft, NT, ND, bowel sounds present
   Ext: edematous
   Labs / Radiology
   686 K/uL
   9.8 g/dL
   141 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.0 mEq/L
   13 mg/dL
   101 mEq/L
   137 mEq/L
   29.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2169-9-6**]  04:37 AM
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
   WBC
   12.0
   9.5
   9.7
   12.5
   16.1
   15.7
   13.9
   Hct
   27.4
   23.6
   22.0
   31.3
   31.0
   32.1
   33.0
   29.9
   Plt
   [**Telephone/Fax (3) 7980**]55
   711
   709
   686
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   Glucose
   118
   130
   99
   91
   80
   136
   92
   174
   109
   141
   Other labs: PT / PTT / INR:13.4/33.7/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:80.5 %,
   Band:0.0 %, Lymph:11.3 %, Mono:6.1 %, Eos:2.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  Awaiting PEG placement.
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   several days.    She is s/p treatment of VAP with vanco, cefepime and
   cipro which ended on [**9-6**], however, now with rising wbc and new RLL
   infiltrate suggesting of new VAP.  S&S eval shows patient is aspirating
   her secretions.  GPCs in sputum from two days ago.
   - continues to have cough and few rhonchi in RUL
   - leukoyctosis trending down today, no fever, bronch unremarkable
   - cont to monitor, could be secondary to pneumonitis
   - if febrile, would treat for VAP
   .
   Leukocytosis: WBC trending down now.  Will pan culture, but most likely
   source is VAP given RLL infiltrate, increasing secretions and
   aspiration of secretions
 culture on [**9-10**] of sputum had sparse
   oropharyngeal growth.  Urine was negative.
   - no abx for now, cont to trend WBC, monitor for fever
   ..
   Nutrition.  Albumin has significantly improved with tube feeds and TPN,
   though patient has had no PO access for several days.  Now has new PICC
   after she pulled it out on Sunday night.  She is in need of PEG, but is
   awaiting surgery.  Unable to replace NGT due to nasal reconstruction.
   -awaiting thoracics placement of PEG tube this week, scheduled for
   tomorrow afternoon
   - continue TPN, appreciate nutrition recs
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently NWB, but
   will need to clarify weight bearing status with her orthopedic surgeon.
   - clarify weight bearing status with ortho, has been called, should
   call back today
   - PT
   Tachycardia: Likely [**3-20**] anxiety. Overall is improving.
   - monitor on tele
   - ativan PRN
   .
   OCD/Anxiety: unable to get home meds because has no PO access.
   - ativan PRN, restart home meds after PEG tube placed
   ICU Care
   Nutrition: TPN
   Peripheral Parenteral Nutrition - [**2169-9-11**] 07:41 PM 52.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: SQ hep, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-09-13 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -still awaiting ortho call back
   -plan for OR today
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-12**] 08:00 AM
   Furosemide (Lasix) - [**2169-9-12**] 08:00 AM
   Lorazepam (Ativan) - [**2169-9-13**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 89 (63 - 110) bpm
   BP: 124/57(73) {124/57(73) - 168/136(141)} mmHg
   RR: 22 (13 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,714 mL
                                                                    460 mL
   PO:
             TF:
   IVF:
                                                                    451 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    700 mL
   Urine:
                                                                  2,550 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -836 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: NAD, alert
   HEENT: Trached,
   CV: RRR nom/r/g
   Pulm: coarse bs bilaterally, more so on R
   Abd: soft, NT, ND, bowel sounds present
   Ext: no c/c/e 2+pulses
   Labs / Radiology
   660 K/uL
   10.2 g/dL
   119 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   99 mEq/L
   132 mEq/L
   31.7 %
   14.8 K/uL
        [image002.jpg]
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
   WBC
   9.5
   9.7
   12.5
   16.1
   15.7
   13.9
   14.8
   Hct
   23.6
   22.0
   31.3
   31.0
   32.1
   33.0
   29.9
   31.7
   Plt
   [**Telephone/Fax (2) 7986**]
   660
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   Glucose
   130
   99
   91
   80
   136
   92
   174
   109
   141
   119
   Other labs: PT / PTT / INR:13.8/33.9/1.2, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.9 %,
   Band:0.0 %, Lymph:9.6 %, Mono:6.8 %, Eos:3.5 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   .
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  Awaiting PEG placement.
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   several days.    She is s/p treatment of VAP with vanco, cefepime and
   cipro which ended on [**9-6**], however, now with rising wbc and new RLL
   infiltrate suggesting of new VAP.  S&S eval shows patient is aspirating
   her secretions.  GPCs in sputum from two days ago.
   - continues to have cough and few rhonchi in RUL
   - leukoyctosis failrly stable.
   - cont to monitor, could be secondary to pneumonitis
   - if febrile, would treat for VAP
   .
   Leukocytosis: WBC trending down now.  Will pan culture, but most likely
   source is VAP given RLL infiltrate, increasing secretions and
   aspiration of secretions
 culture on [**9-10**] of sputum had sparse
   oropharyngeal growth.  Urine was negative.
   - no abx for now, cont to trend WBC, monitor for fever
   ..
   Nutrition.  Albumin has significantly improved with tube feeds and TPN,
   though patient has had no PO access for several days.  Now has new PICC
   after she pulled it out on Sunday night.  She is in need of PEG, but is
   awaiting surgery.  Unable to replace NGT due to nasal reconstruction.
   -PEG placement today. F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Doctor First Name 91**] recs
   - continue TPN, appreciate nutrition recs
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently NWB, but
   will need to clarify weight bearing status with her orthopedic surgeon.
   - clarify weight bearing status with ortho, has been called twice,
   awaiting call back.
   - PT
   Tachycardia: Likely [**3-20**] anxiety. Overall is improving.
   - monitor on tele
   - ativan PRN
   .
   OCD/Anxiety: unable to get home meds because has no PO access.
   - ativan PRN, restart home meds after PEG tube placed
   ICU Care
   Nutrition: will start tube feeds once placed.
   TPN w/ Lipids - [**2169-9-12**] 06:06 PM 53.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: pneumboots, holding hep SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU to rehab

2169-09-13 10:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-13**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-13**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 88 (63 - 103) bpm
   BP: 144/89(104) {124/57(73) - 168/101(113)} mmHg
   RR: 25 (13 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,714 mL
                                                                    626 mL
   PO:
             TF:
   IVF:
                                                                    451 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,240 mL
   Urine:
                                                                  2,550 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -836 mL
                                                                   -614 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   660 K/uL
   119 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   99 mEq/L
   132 mEq/L
   31.7 %
   14.8 K/uL
        [image002.jpg]
                             [**2169-9-6**]  05:38 PM
                             [**2169-9-7**]  04:31 AM
                             [**2169-9-7**]  10:01 PM
                             [**2169-9-8**]  04:24 AM
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
   WBC
   9.5
   9.7
   12.5
   16.1
   15.7
   13.9
   14.8
   Hct
   23.6
   22.0
   31.3
   31.0
   32.1
   33.0
   29.9
   31.7
   Plt
   [**Telephone/Fax (2) 7986**]
   660
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   Glucose
   130
   99
   91
   80
   136
   92
   174
   109
   141
   119
   Other labs: PT / PTT / INR:13.8/33.9/1.2, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.9 %,
   Band:0.0 %, Lymph:9.6 %, Mono:6.8 %, Eos:3.5 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   44 yo female s/p ORIF with recurrent aspiration/acute respiratory
   failure, s/p trach, resolving VAP/ARDS
   Hepatomegaly and poor nutrtion precluding G tube simult. with trach
   1. Malnutrition: On TPN since dobhoff pulled out by pt
   For G tube placement today
   2. Acute respiratory failure: improved, has been tolerating TC for days
   Finished VAP course of abx
   3. Anxiety: improved, very stimulus dependent, less tachycardic
   4. s/p ORIF: clarify weight bearing status with her OSH orthopedic
   surgeon.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-9-12**] 06:06 PM 53.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2169-09-14 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2169-9-13**] 02:01 PM
   PEG
 OR RECEIVED - At [**2169-9-13**] 05:02 PM
   .
   - Dr.[**Name (NI) 8008**] office say patient can have touch down weight bearing
   only until three months post-op; surgery date was [**2169-7-26**]
   - laproscopic PEG placed, was difficult endoscopy and had some bleeding
   during adhesion lysis
   - serial hcts checked overnight, stable
   - PO meds started
   - TFs to start 24 hrs post op, around 5pm today.
   - patient's mother anxious about discharge
   - transitioned back to trach mask post op
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-13**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt without complaints with ASL interpretor.
   Flowsheet Data as of  [**2169-9-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.3
   HR: 62 (62 - 115) bpm
   BP: 116/50(67) {94/50(64) - 162/91(104)} mmHg
   RR: 17 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,236 mL
                                                                    657 mL
   PO:
             TF:
   IVF:
                                                                    182 mL
                                                                     75 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,790 mL
                                                                    320 mL
   Urine:
                                                                  2,590 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -554 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV-not currently
   Vt (Spontaneous): 544 (449 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.5 L/min
   Physical Examination
   Gen: NAD, alert
   HEENT: Trached,
   CV: RRR nom/r/g
   Pulm: coarse bs bilaterally, more so on R
   Abd: soft, NT, ND, bowel sounds present
   Ext: no c/c/e 2+pulses
   Labs / Radiology
   570 K/uL
   9.4 g/dL
   123 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.7 mEq/L
   19 mg/dL
   100 mEq/L
   132 mEq/L
   29.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
   WBC
   12.5
   16.1
   15.7
   13.9
   14.8
   15.2
   14.7
   Hct
   31.3
   31.0
   32.1
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   Plt
   655
   711
   709
   686
   660
   595
   570
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   Glucose
   136
   92
   174
   109
   141
   119
   860
   123
   Other labs: PT / PTT / INR:13.8/33.9/1.2, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.9 %,
   Band:0.0 %, Lymph:9.6 %, Mono:6.8 %, Eos:3.5 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   .
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  Awaiting PEG placement.
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   several days.    She is s/p treatment of VAP with vanco, cefepime and
   cipro which ended on [**9-6**], however, now with stabily elevated WBC count
   and low grade fever.S&S eval shows patient is aspirating her
   secretions.  GPCs in sputum from three days ago.
   - continues to have cough and few rhonchi in RUL
   - leukoyctosis failrly stable.
   - cont to monitor, could be secondary to pneumonitis
   - if febrile, would treat for VAP
   -continue resp PT and TCM
   .
   Leukocytosis: WBC trending down now.  Will pan culture, but most likely
   source is VAP given RLL infiltrate, increasing secretions and
   aspiration of secretions
 culture on [**9-10**] of sputum had sparse
   oropharyngeal growth.  Urine was negative.
   - no abx for now, cont to trend WBC, monitor for fever
   ..
   Nutrition.  Albumin has significantly improved with tube feeds and TPN,
   though patient has had no PO access for several days.  Now has new PICC
   after she pulled it out on Sunday night.  She is in need of PEG, but is
   awaiting surgery.  Unable to replace NGT due to nasal reconstruction.
   -s/p PEG placement yesterday, will begin TF today.
   -DC TPN, appreciate nutrition recs
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently NWB, but
   will need to clarify weight bearing status with her orthopedic surgeon.
   - Ortho called yesterday, touch down weight bearing for 3 months post
   op
   - PT
   Tachycardia: Likely [**3-20**] anxiety. Overall is improving.
   - monitor on tele
   - ativan PRN
   .
   OCD/Anxiety: unable to get home meds because has no PO access.
   - ativan PRN, restart home meds after PEG tube placed
   .
   ICU Care
   Nutrition: will start TF today.
   TPN w/ Lipids - [**2169-9-13**] 07:00 PM 53.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: pneumoboots, HSC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:to rehab

2169-09-14 09:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo female s/p ORIF with recurrent aspiration/acute respiratory
   failure, s/p trach, resolving VAP/ARDS
   24 Hour Events:
   Tolerated lap PEG yest without problems.
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-13**] 10:30 AM
   Furosemide (Lasix) - [**2169-9-14**] 08:00 AM
   Other medications:
   RISS, Klonopin, Senna, Colace, lactulose, protonix, lasix, clomipramine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-14**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 97 (62 - 115) bpm
   BP: 119/57(71) {94/50(64) - 162/91(103)} mmHg
   RR: 33 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,236 mL
                                                                    958 mL
   PO:
             TF:
   IVF:
                                                                    182 mL
                                                                     91 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,790 mL
                                                                    400 mL
   Urine:
                                                                  2,590 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -554 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (449 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous:
   diffusely)
   Abdominal: Soft, Bowel sounds present, Tender: at peg site which is
   c/d/i
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   570 K/uL
   123 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.7 mEq/L
   19 mg/dL
   100 mEq/L
   132 mEq/L
   29.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2169-9-8**]  07:35 PM
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
   WBC
   12.5
   16.1
   15.7
   13.9
   14.8
   15.2
   14.7
   Hct
   31.3
   31.0
   32.1
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   Plt
   655
   711
   709
   686
   660
   595
   570
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   Glucose
   136
   92
   174
   109
   141
   119
   860
   123
   Other labs: PT / PTT / INR:13.8/33.9/1.2, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.9 %,
   Band:0.0 %, Lymph:9.6 %, Mono:6.8 %, Eos:3.5 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.2
   mg/dL
   Imaging: [**9-14**] CXR- stable if slightly improved bilateral infiltrates
   and effusions
   Assessment and Plan
   44 yo female s/p ORIF with recurrent aspiration/acute respiratory
   failure, s/p trach, resolving VAP/ARDS
   1. Malnutrition: On TPN since dobhoff pulled out by pt, tolerated lap
   PEG yest without problems
   -to resume tube feeds today per [**Doctor First Name **]
   -dc tpn
   2. Acute respiratory failure: improved, has been tolerating TC for days
   -Finished VAP course of abx
   -cont trials for PMV
   3. Anxiety: improved, very stimulus dependent, less tachycardic
   -resuming home meds
   4. s/p ORIF: TDWB on side of Ortho repair for 3 months following
   [**2169-7-26**] [**Doctor First Name 91**] (till [**2169-10-26**])
   -PT/OT
   5. Dispo: transfer to rehab if cleared by [**Doctor First Name **]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-9-13**] 07:00 PM 53.5 mL/hour
   Comments: transitioning to tube feeds today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt independently, and was present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 4052**]
s note, and would add: 44 yo female with MR [**First Name (Titles) **]
[**Last Name (Titles) 8015**]tal delay s/p ORIF, post op course notable for recurrent
   aspiration resulting in renal failure, transferred here to undergo
   trach and G tube placement. s/p trach with resolving VAP/ARDS,
   underwent G tube placement yesterday. Back on trach collar today,
   enteral feeds just started. OCD meds re-started and will see how she
   tolerates TF
s. Anticipate discharge to rehab likely tomorrow.w
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-14**] 14:28 ------

2169-09-15 06:33:00 Physician Resident Progress Note
Chief Complaint: s/p trach and G-tube
   24 Hour Events:
   - Tolerating tube feeds
   - mother is anxious about discharge, so will go tomorrrow to [**Hospital 858**]
   Rehab
   - meds switched to POs
   - oxycodone started for mild PEG site pain
   - S&S felt she was not safe for PMV or oral feedings yet due to
   aspiration, but should continue to get re-evals at rehab
   - having voluminous diarrhea early in the night.  Her stool was sent
   for c. diff, gave IV fluid bolus, and lasix was held.
   - She began having signficant abdomal pain associated with tachycardia
   to the 140s.  She was tender on L>R abdomen and distened. KUB showed
   ilues, but no free air.  Tube feeds held and g-tube placed to suction.
   Thoracics notified.
   - Tachycardia to 140s fell by 40 bpm with stopping tube feeds, putting
   G-tube to suction (though there were not really any significant
   residuals), and removing the rectal tube (which may have been
   distressing to her)
   History obtained from Patient, Family / Friend, [**Hospital 961**] Medical
   records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-9-14**] 08:00 AM
   Lorazepam (Ativan) - [**2169-9-15**] 01:00 AM
   Morphine Sulfate - [**2169-9-15**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-15**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 117 (62 - 133) bpm
   BP: 139/65(88) {112/50(67) - 160/86(104)} mmHg
   RR: 27 (15 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  3,074 mL
                                                                  2,132 mL
   PO:
             TF:
                                                                    324 mL
                                                                     89 mL
   IVF:
                                                                  1,390 mL
                                                                  2,043 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                  1,290 mL
   Urine:
                                                                  2,090 mL
                                                                  1,290 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    484 mL
                                                                    842 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Bowel sounds present, Distended, left > right
   tenderness and guarding, improved since last night
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   504 K/uL
   8.9 g/dL
   110 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.1 mEq/L
   13 mg/dL
   101 mEq/L
   135 mEq/L
   26.9 %
   15.9 K/uL
        [image002.jpg]
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
   WBC
   12.5
   16.1
   15.7
   13.9
   14.8
   15.2
   14.7
   15.9
   Hct
   31.0
   32.1
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   Plt
   655
   711
   709
   686
   [**Telephone/Fax (2) 8033**]04
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   0.3
   Glucose
   92
   174
   109
   141
   119
   860
   123
   110
   Other labs: PT / PTT / INR:13.0/30.4/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:79.9 %,
   Band:0.0 %, Lymph:9.6 %, Mono:6.8 %, Eos:3.5 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  Awaiting PEG placement.
   .
   Abdominal pain.  Patient
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   several days.    She is s/p treatment of VAP with vanco, cefepime and
   cipro which ended on [**9-6**], however, now with stabily elevated WBC count
   and low grade fever.S&S eval shows patient is aspirating her
   secretions.  GPCs in sputum from three days ago.
   - continues to have cough and few rhonchi in RUL
   - leukoyctosis failrly stable.
   - cont to monitor, could be secondary to pneumonitis
   - if febrile, would treat for VAP
   -continue resp PT and TCM
   .
   Leukocytosis: WBC trending down now.  Will pan culture, but most likely
   source is VAP given RLL infiltrate, increasing secretions and
   aspiration of secretions
 culture on [**9-10**] of sputum had sparse
   oropharyngeal growth.  Urine was negative.
   - no abx for now, cont to trend WBC, monitor for fever
   ..
   Nutrition.  Albumin has significantly improved with tube feeds and TPN,
   though patient has had no PO access for several days.  Now has new PICC
   after she pulled it out on Sunday night.  She is in need of PEG, but is
   awaiting surgery.  Unable to replace NGT due to nasal reconstruction.
   -s/p PEG placement yesterday, will begin TF today.
   -DC TPN, appreciate nutrition recs
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently NWB, but
   will need to clarify weight bearing status with her orthopedic surgeon.
   - Ortho called yesterday, touch down weight bearing for 3 months post
   op
   - PT
   Tachycardia: Likely [**3-20**] anxiety. Overall is improving.
   - monitor on tele
   - ativan PRN
   .
   OCD/Anxiety: unable to get home meds because has no PO access.
   - ativan PRN, restart home meds after PEG tube placed
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2169-09-15 09:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo female s/p ORIF with recurrent aspiration/acute respiratory
   failure, s/p trach, resolving VAP/ARDS
   24 Hour Events:
   Increased frequency diarrhea yest pm followed by increased abd pain and
   assoc tachycardia last night. Had gotten oxycodone prn by day and MSO4
   IV in the evening with minimal help. Also received 2L IVF given
   diarrhea.  Clinically ileus suspected, so tube feeds stopped and PEG
   temporarily put to wall suction.
   This am noting abd pain only.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-15**] 01:00 AM
   Morphine Sulfate - [**2169-9-15**] 01:45 AM
   Other medications:
   Peridex, RISS, lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-15**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 130 (85 - 133) bpm
   BP: 155/100(114) {112/52(68) - 160/100(114)} mmHg
   RR: 45 (15 - 45) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  3,074 mL
                                                                  2,566 mL
   PO:
             TF:
                                                                    324 mL
                                                                     89 mL
   IVF:
                                                                  1,390 mL
                                                                  2,477 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                  1,570 mL
   Urine:
                                                                  2,090 mL
                                                                  1,570 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    484 mL
                                                                    996 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely and at G tube
   site w/ rebound
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   504 K/uL
   110 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.1 mEq/L
   13 mg/dL
   101 mEq/L
   135 mEq/L
   26.9 %
   15.9 K/uL
        [image002.jpg]
                             [**2169-9-9**]  03:45 AM
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
   WBC
   12.5
   16.1
   15.7
   13.9
   14.8
   15.2
   14.7
   15.9
   Hct
   31.0
   32.1
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   Plt
   655
   711
   709
   686
   [**Telephone/Fax (2) 8033**]04
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   0.3
   Glucose
   92
   174
   109
   141
   119
   860
   123
   110
   Other labs: PT / PTT / INR:13.0/30.4/1.1, ALT / AST:20/27, Alk Phos / T
   Bili:146/0.3, Amylase / Lipase:39/22, Differential-Neuts:82.7 %,
   Band:0.0 %, Lymph:7.7 %, Mono:5.7 %, Eos:3.8 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:370 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Imaging: [**9-14**] KUB-
   Microbiology: [**9-14**] C diff- pending
   Assessment and Plan
   44 yo female s/p ORIF with recurrent aspiration/acute respiratory
   failure, s/p trach [**8-28**], resolving VAP/ARDS, s/p lap PEG [**9-13**].
   1. Abd pain: s/p lap PEG on [**9-13**] w/ signs of ileus vs early LBO this
   am, likely related to [**Doctor First Name 91**]
   -notify [**Doctor First Name **]
   -npo or per tube for now
   -dc laxatives for now
   -put PEG to suction if possible
   -follow serial abd exams and KUB; possible CT a/p to better evaluate
   2. Diarrhea: related to tube feeds post PEG but given abd pain need to
   r/o for C diff
   -C diff pending
   -low threshold for empiric ABX if any signs of infxn (fever, worsened
   leukocytosis)
   3. Anxiety: improved, very stimulus dependent
   -home meds while npo
   4. s/p ORIF: TDWB on side of Ortho repair for 3 months following
   [**2169-7-26**] [**Doctor First Name 91**] (till [**2169-10-26**])
   -PT/OT
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt independently, and was present with the ICU
   housestaff team for the relevant portions of the services provided. I
   agree with Dr. [**Last Name (STitle) 4052**]
s note, including assessment and plan, and
   would add: 44 yo female s/p ORIF with post-op course complicated by
   recurrent aspiration and acute respiratory failure, VAP, resolving
   ARDS, now s/p trach and PEG. Enteral feeds started yesterday with
   development of ileus overnight. Appropriate placement of PEG confirmed.
   Degree of  presumed tenderness earlier this morning was concerning;
   however through sign language interpreter subsequently determined that
   the pt was only reporting a mild degree of tenderness. TF
s resumed,
   but at lower rate. Prior plans for discharge today therefore cancelled.
   Will see how she tolerates TF
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-15**] 16:13 ------

2169-09-16 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt c/o abd pain on rounds
   -KUB-with gastrografin performed, showing proper placement. Still with
   e/o ileus. With ASL interpretor, pt reported pain was "small".
   Therefore, TF resumed at low rate, pt tolerating
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-16**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 108 (72 - 146) bpm
   BP: 128/46(87) {98/45(59) - 162/108(114)} mmHg
   RR: 22 (14 - 45) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,910 mL
                                                                    245 mL
   PO:
             TF:
                                                                    318 mL
                                                                    188 mL
   IVF:
                                                                  2,592 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    390 mL
   Urine:
                                                                  3,070 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Bowel sounds present, Distended, left > right
   tenderness and guarding, improved since last night
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   551 K/uL
   9.4 g/dL
   98 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   138 mEq/L
   29.7 %
   12.5 K/uL
        [image002.jpg]
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
                             [**2169-9-16**]  04:58 AM
   WBC
   16.1
   15.7
   13.9
   14.8
   15.2
   14.7
   15.9
   12.5
   Hct
   32.1
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   29.7
   Plt
   [**Telephone/Fax (2) 8058**]
   504
   551
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   Glucose
   174
   109
   141
   119
   [**Telephone/Fax (2) 8059**]8
   Other labs: PT / PTT / INR:12.4/30.9/1.0, ALT / AST:85/56, Alk Phos / T
   Bili:131/0.2, Amylase / Lipase:39/195, Differential-Neuts:78.6 %,
   Band:0.0 %, Lymph:7.9 %, Mono:4.6 %, Eos:8.5 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:280 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   .
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  S/p  PEG placement on
   [**9-13**].
   .
   Abdominal pain.  Patient deveveloped significant abdominal tenderness
   with guarding overnight after reaching tube feed rate of 40 (goal =
   50).  She was also significantly tachycardic (HR 140s).  A KUB showed
   ileus.  She was given morphine for pain and tube feeds were held.  Her
   HR and abdominal pain have since improved.  Abdominal pain is
   concerning given recent surgery; patient at risk for obstruction,
   ileus, infection at site of G-tube, or infectious diarrhea (?c. diff)
   resulting in pain.   Pain improved and c.diff negative, so likely was
   post op pain.  Now tolerating tube feeds at goal.
   - serial abdominal exams
   - consider KUB vs. ct abd/pelvis if worsening abdominal pain
   - thoracics following
   - per thoracics, unsafe to place g-tube to suction and patient is
   unable to get NGT due to nasal anatomy
   -pts pain improved, oxycodone for pain control, cont bowel reg
   .
   Transaminitis:  unclear etiology, possible secondary to TPN, although
   would be unusual after only about a week or so of TPN.
   - RUQ ultrasound
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   > 1 week.    She is s/p treatment of VAP with vanco, cefepime and cipro
   which ended on [**9-6**].  S&S eval shows patient is aspirating her
   secretions.  CXR is overall improving.
   - continue TCM
   - no oral intake given aspiration risk is high
   - continue PMV trials at rehab
   .
   Leukocytosis: WBC stably elevated with no clear source of infection,
   trending down today.  Patient had low grade fever two nights ago but
   now is afebrile
   - UA, Ucx - negative
   - c. diff - negative
   - f/u cultures
 no obvious source
   ..
   Nutrition.  S/p G-tube placement.
   - resumed tube feeds at reduced rate as abdominal exam improved,
   advance as tolerated to goal
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently touch down
   weight bearing for 3 months post op.
   - PT
   .
   OCD/Anxiety.
   - continue klonipin & clomipramine
   .
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-9-16**] 02:22 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: pneumoboots, hep sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to rehab
 lost bed that was available last week, so will
   be rescreened on Monday, and possibly will be able to go to Siani,
   which is what the family prefers

2169-09-16 08:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo woman with congenital deafness and mental retardation, admitted
   to OSH in early [**Month (only) 1646**] after hip fracture, s/p [**Month (only) 2609**] there. Postop course
   complicated by recurrent aspiration and persistent respiratory failure.
   OSH course also notable for presumed-barotrauma-related PTX and
   hemothorax s/p VATS and chest tubes on the right. Transferred to [**Hospital1 **] on
   [**8-25**] for trach/PEG. Underwent trach on [**8-28**] at the bedside, peg
   deferred due to large liver. Managed initially for ARDS and septic
   shock both of which have resolved. Now s/p lap PEG on [**9-13**] and stable
   on trach collar. Plan for dc to rehab once consistently tolerating tube
   feeds. Some ileus on [**9-14**] that we are watching now. To the floor on
   Saturday if still w/ GI issues that need monitoring.
   24 Hour Events:
   Started TF and tolerated overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-9-16**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-16**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 109 (72 - 146) bpm
   BP: 153/68(88) {98/45(59) - 162/108(112)} mmHg
   RR: 22 (14 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  2,910 mL
                                                                    437 mL
   PO:
             TF:
                                                                    318 mL
                                                                    294 mL
   IVF:
                                                                  2,592 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    670 mL
   Urine:
                                                                  3,070 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffuse, no rebound
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   551 K/uL
   98 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   138 mEq/L
   29.7 %
   12.5 K/uL
        [image002.jpg]
                             [**2169-9-10**]  04:58 AM
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
                             [**2169-9-16**]  04:58 AM
   WBC
   16.1
   15.7
   13.9
   14.8
   15.2
   14.7
   15.9
   12.5
   Hct
   32.1
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   29.7
   Plt
   [**Telephone/Fax (2) 8058**]
   504
   551
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   Glucose
   174
   109
   141
   119
   [**Telephone/Fax (2) 8059**]8
   Other labs: PT / PTT / INR:12.4/30.9/1.0, ALT / AST:85/56, Alk Phos / T
   Bili:131/0.2, Amylase / Lipase:39/195, Differential-Neuts:78.6 %,
   Band:0.0 %, Lymph:7.9 %, Mono:4.6 %, Eos:8.5 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:280 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Abdominal Pain
   Diarrhea
   1. Abdominal pain: KUB showed ileus, having diarrhea, possible post op
   pain from PEG
   -prn percocet
   -cont. TF for now
   -C Diff neg
   2. Hip fx: [**First Name9 (NamePattern2) 2609**] [**Month (only) 1646**]
   -cont. PT
   [**Hospital 8065**] rehab bed
   3. nutrition: advancing TF
   4. IV access: d/c PICC line
   5. ppx: PPI, sc hep
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-9-16**] 02:22 AM 50 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 25 minutes
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined above by Dr. [**First Name (STitle) 1516**].
   Exam notable for abd tympany mild epigastric tenderness
   Incr transaminases
   Lipase 193
   Doing well. Tachy this am but has done that in the past  and UO remains
   good.  Elevated lipase suggests ileus may be 2ary to pancreatitis.
   Would U/S RUQ, search meds.
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-9-16**] 11:25 ------

2169-09-17 07:45:00 Physician Resident Progress Note
Chief Complaint: s/p trach and g-tube
   24 Hour Events:
   [**2169-9-16**]
   - pain improved
   - continued oxycodone PRN
   - transaminitis found when belly labs done for abdominal pain, no
   obvious cause of elevation, RUQ US ordered
   - RUQ US IMPRESSION:
   1. Contracted gallbladder.
   2. Heterogeneous and coarsened liver echotexture without focal masses.
   Findings are suggestive of an underlying chronic liver disease.
   3. Right pleural effusion.
   - radiology said study was imperfect because gallbladder was contracted
   in the setting of tube feeds; held tube feeds in 6 am this morning in
   case repeat study was warranted
   - tube feeds at goal
   - having normal, formed bowel movements
   - case management contact[**Name (NI) **] and patient needs to be rescreened on
   Monday for rehabs as her bed was lost this Friday
   History obtained from Patient, [**Hospital 961**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-9-16**] 07:48 AM
   Lorazepam (Ativan) - [**2169-9-16**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-17**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 98 (91 - 130) bpm
   BP: 134/77(92) {110/48(65) - 170/94(142)} mmHg
   RR: 18 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,389 mL
                                                                    464 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    387 mL
   IVF:
                                                                    240 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    250 mL
   Urine:
                                                                  1,470 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -81 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   550 K/uL
   8.8 g/dL
   115 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.8 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   27.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
                             [**2169-9-16**]  04:58 AM
                             [**2169-9-17**]  04:47 AM
   WBC
   15.7
   13.9
   14.8
   15.2
   14.7
   15.9
   12.5
   13.1
   Hct
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   29.7
   27.2
   Plt
   [**Telephone/Fax (3) **]95
   [**Telephone/Fax (2) 8081**]50
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   0.3
   Glucose
   109
   141
   119
   [**Telephone/Fax (3) **]
   98
   115
   Other labs: PT / PTT / INR:12.4/30.9/1.0, ALT / AST:65/39, Alk Phos / T
   Bili:127/0.2, Amylase / Lipase:39/195, Differential-Neuts:78.6 %,
   Band:0.0 %, Lymph:7.9 %, Mono:4.6 %, Eos:8.5 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:260 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  S/p  PEG placement on
   [**9-13**].
   .
   Abdominal pain.  Patient deveveloped significant abdominal tenderness
   with guarding overnight after reaching tube feed rate of 40 (goal =
   50).  She was also significantly tachycardic (HR 140s).  A KUB showed
   ileus.  She was given morphine for pain and tube feeds were held.  Her
   HR and abdominal pain have since improved.  Abdominal pain is
   concerning given recent surgery; patient at risk for obstruction,
   ileus, infection at site of G-tube, or infectious diarrhea (?c. diff)
   resulting in pain.   Pain improved and c.diff negative, so likely was
   post op pain.  Now tolerating tube feeds at goal.
   - serial abdominal exams
   - consider KUB vs. ct abd/pelvis if worsening abdominal pain
   - thoracics following
   - per thoracics, unsafe to place g-tube to suction and patient is
   unable to get NGT due to nasal anatomy
   -pts pain improved, oxycodone for pain control, cont bowel reg
   .
   Transaminitis:  unclear etiology, possible secondary to TPN, although
   would be unusual after only about a week or so of TPN.
   - RUQ ultrasound
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   > 1 week.    She is s/p treatment of VAP with vanco, cefepime and cipro
   which ended on [**9-6**].  S&S eval shows patient is aspirating her
   secretions.  CXR is overall improving.
   - continue TCM
   - no oral intake given aspiration risk is high
   - continue PMV trials at rehab
   .
   Leukocytosis: WBC stably elevated with no clear source of infection,
   trending down today.  Patient had low grade fever two nights ago but
   now is afebrile
   - UA, Ucx - negative
   - c. diff - negative
   - f/u cultures
 no obvious source
   ..
   Nutrition.  S/p G-tube placement.
   - resumed tube feeds at reduced rate as abdominal exam improved,
   advance as tolerated to goal
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently touch down
   weight bearing for 3 months post op.
   - PT
   .
   OCD/Anxiety.
   - continue klonipin & clomipramine
   .
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-9-17**] 03:36 AM 49.[**Telephone/Fax (3) 8082**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2169-09-17 09:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   RUQ showed no cholecystitis, but hetero echo texture. Abd pain pain
   improved. TF are at goal.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-16**] 08:05 PM
   Lansoprazole (Prevacid) - [**2169-9-17**] 08:17 AM
   Other medications:
   Chlomipramine, clonapin, senna, colace, lanoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-17**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 119 (91 - 156) bpm
   BP: 154/73(91) {110/48(65) - 170/94(142)} mmHg
   RR: 11 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,389 mL
                                                                    398 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    303 mL
   IVF:
                                                                    240 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    540 mL
   Urine:
                                                                  1,470 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -81 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   550 K/uL
   115 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.8 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   27.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2169-9-11**]  04:29 AM
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
                             [**2169-9-16**]  04:58 AM
                             [**2169-9-17**]  04:47 AM
   WBC
   15.7
   13.9
   14.8
   15.2
   14.7
   15.9
   12.5
   13.1
   Hct
   33.0
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   29.7
   27.2
   Plt
   [**Telephone/Fax (3) **]95
   [**Telephone/Fax (2) 8081**]50
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   0.3
   Glucose
   109
   141
   119
   [**Telephone/Fax (3) **]
   98
   115
   Other labs: PT / PTT / INR:12.4/30.9/1.0, ALT / AST:65/39, Alk Phos / T
   Bili:127/0.2, Amylase / Lipase:39/195, Differential-Neuts:78.6 %,
   Band:0.0 %, Lymph:7.9 %, Mono:4.6 %, Eos:8.5 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:260 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1. Resp: Tolerating TC well
   -secretions improved
   -cont TC
   2. Ileus: Now improved, TF at goal
   -cont. TF
   -make bowel meds prn
   3. Abd pain: Now resolved, likely post op from PEG
   -LFTs improving
   -will need follow up regarding abnormal liver echo texture on RUQ
   4. sc hep, PPI, SSI
   5. Rehab rescreen Monday
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 1516**]
s note above and
   agree with her findings and plan of care.  The patient is not easy to
   communicate with but expresses no  distress or pain. Her GI tract seems
   to be functioning well now, with PEG nicely in place.  Lungs clear with
   trache also without inflammation at stoma.  I would think she is ready
   to be evaluated for transfer to rehab.  I would advise her staying in
   MICU till such transfer, given the difficulties in communicating with
   pt and the long complicated course she has had already.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2169-9-17**] 16:09 ------

2169-09-18 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LFTs trending down
   - rescreened and has a bed today.
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-9-17**] 08:17 AM
   Lorazepam (Ativan) - [**2169-9-17**] 04:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-18**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 134 (103 - 137) bpm
   BP: 154/65(86) {101/60(75) - 169/87(105)} mmHg
   RR: 26 (7 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,372 mL
                                                                    103 mL
   PO:
             TF:
                                                                  1,102 mL
                                                                     98 mL
   IVF:
                                                                    240 mL
                                                                      5 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    430 mL
   Urine:
                                                                  1,310 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     62 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   602 K/uL
   9.1 g/dL
   111 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   28.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
                             [**2169-9-16**]  04:58 AM
                             [**2169-9-17**]  04:47 AM
                             [**2169-9-18**]  03:48 AM
   WBC
   13.9
   14.8
   15.2
   14.7
   15.9
   12.5
   13.1
   15.1
   Hct
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   29.7
   27.2
   28.4
   Plt
   686
   660
   595
   [**Telephone/Fax (2) 8100**]02
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   0.3
   0.4
   Glucose
   141
   119
   860
   123
   110
   98
   115
   111
   Other labs: PT / PTT / INR:12.4/30.9/1.0, ALT / AST:59/32, Alk Phos / T
   Bili:118/0.1, Amylase / Lipase:39/195, Differential-Neuts:85.8 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.3 %, Eos:2.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, LDH:232 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   44 year old female with a history of mental retardation and deafness
   s/p hip fracture, with prolonged hospital stay complicated by
   pneumonia, ARDS, and sepsis, now resolving.  S/p  PEG placement on [**9-13**]
   with resolivng ileus.
   .
   Ileus.  Patient developd ileus post G-tube placement.  Now toleating
   tube feeds well at goal.  C. diff negative.
   - continue tube feeds
   - serial abd exams
   - thoracics following
   .
   Transaminitis:  unclear etiology, possible secondary to TPN, although
   would be unusual after only about a week or so of TPN.   [**Month/Year (2) **] shows
   evidence of chronic liver disease, but no cholecystitis.  Will need f/u
   transaminases and [**Name (NI) **] sono in 6 weeks.
   - trend transaminases
   .
   Respiratory Failure/ARDS:  Now s/p tracheostomy and tolerating TCM for
   > 1 week.    She is s/p treatment of VAP with vanco, cefepime and cipro
   which ended on [**9-6**].  S&S eval shows patient is aspirating her
   secretions.  CXR is overall improving.
   - continue TCM
   - no oral intake given aspiration risk is high
   - continue PMV trials at rehab
   .
   Leukocytosis: WBC stably elevated with no clear source of infection,
   trending down today.  Patient had low grade fever three nights ago but
   now is afebrile.
   - f/u wbc, fever curve
   ..
   Nutrition.  S/p G-tube placement.
   -continue tube feeds
   .
   S/p hip fracture.  Hip fracture was 6 weeks ago.  Currently touch down
   weight bearing for 3 months post op.
   - PT
   .
   OCD/Anxiety.
   - continue klonipin & clomipramine
   .
   Tachycardia.  Worsening tachycardia over the past few days without
   clear signs of anxiety, pain or dehyration.
   - prn ativan for anxiety
   - goals Is=Os as patietn appears euvolemic
   - telemetry
   ICU Care
   Nutrition:
   Glycemic Control:  Tube feeds
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: hep sc and pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:rehab

2169-09-18 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo woman w/ congenital deafness and mental retardation, s/p trach
   [**8-28**] for aspiration pna and PTX leading to chronic resp failure.
   Transferred to [**Hospital1 5**] on [**8-28**] for ARDS and septic shock, now both
   resolved. s/p laparascopic PEG on [**9-13**] and doing well.
   24 Hour Events:
   no evnets
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-9-17**] 04:56 PM
   Other medications:
   Klonopin, Prevacid, heparin sc, senna, clomipramine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-18**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 138 (103 - 138) bpm
   BP: 160/75(94) {101/60(75) - 174/99(109)} mmHg
   RR: 36 (13 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43 kg (admission): 45.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,375 mL
                                                                    674 mL
   PO:
             TF:
                                                                  1,105 mL
                                                                    579 mL
   IVF:
                                                                    240 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    650 mL
   Urine:
                                                                  1,310 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     65 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, s/p trach, c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilat ant)
   Abdominal: Soft, Non-tender, Bowel sounds present, peg site c/d/i
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, interactive via
   sign language
   Labs / Radiology
   9.1 g/dL
   602 K/uL
   111 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   28.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2169-9-12**]  02:34 AM
                             [**2169-9-13**]  02:27 AM
                             [**2169-9-13**]  05:29 PM
                             [**2169-9-13**]  10:19 PM
                             [**2169-9-14**]  04:08 AM
                             [**2169-9-14**]  05:20 AM
                             [**2169-9-15**]  02:40 AM
                             [**2169-9-16**]  04:58 AM
                             [**2169-9-17**]  04:47 AM
                             [**2169-9-18**]  03:48 AM
   WBC
   13.9
   14.8
   15.2
   14.7
   15.9
   12.5
   13.1
   15.1
   Hct
   29.9
   31.7
   31.0
   28.7
   30.7
   29.3
   26.9
   29.7
   27.2
   28.4
   Plt
   686
   660
   595
   [**Telephone/Fax (2) 8100**]02
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   0.3
   0.4
   Glucose
   141
   119
   860
   123
   110
   98
   115
   111
   Other labs: PT / PTT / INR:12.4/30.9/1.0, ALT / AST:59/32, Alk Phos / T
   Bili:118/0.1, Amylase / Lipase:39/195, Differential-Neuts:85.8 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.3 %, Eos:2.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, LDH:232 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   48 yo woman w/ congenital deafness and mental retardation, s/p trach
   [**8-28**] for aspiration pna and PTX leading to chronic resp failure.
   Transferred to [**Hospital1 5**] on [**8-28**] for ARDS and septic shock, now both
   resolved. s/p laparascopic PEG on [**9-13**] and doing well.
   Resp failure: s/p trach [**8-28**], pulm issues resolved
   -tolerates trach collar w/ PMV
   -poss candidate for downsizing vs decanulation
   Malnutrition: s/p lap PEG [**9-13**]
   -cont tube feeds
   -cont'd assessments for po intake/ Swallow evals
   Deconditioning: long hospitalization
   -PT/OT
   [**Hospital **] rehab today
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-9-18**] 07:46 AM 49.[**Telephone/Fax (5) 8107**] mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2169-9-11**] 05:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 44F mental retardation, ARDS, sepsis, ileus.
   Exam notable for Tm 100.2 BP 150/60 HR 100 RR with sat 99 on 2LNC.
   Frail woman, NAD. CTAB. RRR s1s2, tachy. Soft +BS, G-tube c/d/i. No
   edema. Labs notable for WBC 15K, HCT 28, K+ 3.9, Cr 0.4.
   Agree with plan to manage resolving ileus with advancement of TFs via
   open PEG today. Will monitor fever curve off abx, clinically much
   improved today. Will arrange for transition to rehab later today.
   Remainder of plan as outlined above.
   Total time: 15 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2169-9-18**] 12:57 ------